2139-08-10 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2139-8-9**] 10:53 AM
 EKG - At [**2139-8-9**] 11:03 AM
 EKG - At [**2139-8-9**] 10:44 PM
   --patient with falling SBP 80s-90s. Given boluses of 4L normal saline:
   500cc-500cc-1000cc-1000cc-1000cc.
   --Changed IV fentanyl to fentanyl drip for sedation because
   overbreathing the ventilator.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2139-8-8**] 02:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2139-8-8**] 04:47 AM
   Cefipime - [**2139-8-9**] 08:46 PM
   Metronidazole - [**2139-8-9**] 11:36 PM
   Clindamycin - [**2139-8-10**] 06:30 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-8-9**] 11:36 PM
   Famotidine (Pepcid) - [**2139-8-10**] 12:45 AM
   Fentanyl - [**2139-8-10**] 01:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-8-10**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 55 (43 - 68) bpm
   BP: 91/56(65) {85/47(56) - 118/62(72)} mmHg
   RR: 15 (14 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 83 kg (admission): 78 kg
             Total In:
                                                                  4,110 mL
                                                                  4,983 mL
   PO:
             TF:
   IVF:
                                                                  4,110 mL
                                                                  4,983 mL
   Blood products:
   Total out:
                                                                    630 mL
                                                                    230 mL
   Urine:
                                                                    630 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,480 mL
                                                                  4,753 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 31 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: 7.38/41/116/23/0
   Ve: 6 L/min
   PaO2 / FiO2: 232
   Physical Examination
   Gen: Sedated in NAD
   HEENT: Perrl, sclerae anicteric. ETT in place.
   CV: Nl S1+S2
   Pulm: Rhonchorous throughout to anterior auscultation. Decreased
   breathsounds with rales at right base.
   Abd: S/NT/ND +bs
   Ext: Warm extremities. 1+ pretibial edema bilaterally.
   Neuro: Sedated, opens eyes to voice, does not follow commands.
   Labs / Radiology
   224 K/uL
   8.5 g/dL
   109 mg/dL
   0.3 mg/dL
   23 mEq/L
   3.4 mEq/L
   6 mg/dL
   112 mEq/L
   142 mEq/L
   25.9 %
   13.9 K/uL
        [image002.jpg]
                             [**2139-8-7**]  07:27 PM
                             [**2139-8-8**]  02:36 AM
                             [**2139-8-9**]  01:26 AM
                             [**2139-8-9**]  04:40 PM
                             [**2139-8-9**]  10:31 PM
                             [**2139-8-10**]  02:39 AM
                             [**2139-8-10**]  05:01 AM
   WBC
   18.4
   14.6
   12.9
   11.0
   13.9
   Hct
   44.4
   40.8
   40.7
   39.4
   25.9
   Plt
   194
   169
   162
   171
   224
   Cr
   0.7
   0.5
   0.5
   0.5
   0.4
   0.3
   TCO2
   25
   Glucose
   237
   98
   124
   128
   111
   109
   Other labs: PT / PTT / INR:15.5/31.6/1.4, ALT / AST:30/48, Alk Phos / T
   Bili:65/0.6, Amylase / Lipase:/15, Lactic Acid:1.2 mmol/L, Ca++:6.5
   mg/dL, Mg++:2.4 mg/dL, PO4:2.3 mg/dL
   Fingersticks: 157-139-118-119
   Assessment and Plan
 BRADYCARDIA
 TRACHEOBRONCHIAL DISEASE, OTHER (TRACHEA / BRONCHUS, INCLUDING
   INJURY)
 PNEUMONIA, ASPIRATION
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assessment and Plan: Ms. [**Known lastname 8360**] is a 54 female hypertension,
   hyperlipidemia, type 2 diabetes transferred from an OSH for
   bronchoesophageal fistula and cavitary lung abscess/mass.
   .
   # Hypotension: Clinically, the patient appears euvolemic. Possible
   etiologies of hypotension include sepsis, hypovolemia, medication
   related and intubation related. Patient is moderately responsive to
   fluid boluses in the setting of infection, so the reason is most likely
   sepsis. Hypovolemia is less likely since she does not respond well to
   boluses, however, her urine is dark. The fentanyl drip can also be
   contributing to her vasodilation, but the benefits of the drip outweigh
   the risks. Initially, secretions from her intubation tube was causing
   some hypotension, but upon suctioning, it improved. The compression
   effects of the lung mass can also be causing hypotension/bradycardia.
   --Continue fluid boluses for a goal of UOP>30 and MAP>65.
   --Check urine lytes for FeNa.
   --Need to get an arterial line to assess delta PP.
   --Need to get a central venous line for access and to assess CVP and
   mixed venous O2.
   --Obtain TTE to assess dynamics of the heart.
   .
   # Respiratory: Patient was intubated at OSH, although unclear if this
   was secondary to respiratory failure or for bronchoscopy and upper
   endoscopy.  Plan to keep intubated tonight given plan for EGD in AM.
   - Continue volume cycled assist control pending EGD.
   - Continue midaz gtt and fentaynl gtt
   .
   # Bronchoesophageal fistula: CT esophogram and barium swallow
   concerning for RLL/RML lung abscess with a RLL bronchus communicating
   with distal esophagus. Given patient's significant smoking history,
   there is a concern that the underlying process is malignant (esophageal
   versus lung).  The patient has already been evaluated by Thoracic
   surgery, and her family/HCP have declined surgical intervention at this
   time.  Transfer to [**Hospital Unit Name 1**] with plan for GI intervention including EGD,
   biopsy, and possible stent placement.
   - Continue cefepime (started [**2139-8-9**]) and clindamycin (started [**2139-8-10**])
   for additional anaerobic coverage given primary lung abscess.
   - D/C flagyl. Start Vanco for more gram positive coverage.
   - NPO for EGD in AM.
   - Follow-up with GI/ERCP
   - Follow-up pathology from [**Hospital6 300**]
   - f/u cultures
   .
   # Anemia: Patient has falling Hct. Has received many fluids, but has
   had a 24 hr drop from 39.4
25.9 in the setting of a lung lesion.
   --repeat Hct
   --check Hct q 6 hr
   --hemolysis and iron labs
   --guiaic stools
   --type and screen
   .
   # CV: Patient initially presented to OSH ED after PCP [**Name9 (PRE) **] with concern
   for afib. Since admission to OSH, no evidence of arrhythmia.
   - Monitor on telemetry
   - TTE today.
   .
   # DM 2: Continue HISS.
   .
   # HTN: Hold home lisinopril for now.
   .
   # Asthma: Continue albuterol/ipratropium MDI prn.
   ICU Care
   Nutrition: NPO. D5
 NS @ 125.
   Glycemic Control:  On HISS.
   Lines:
   18 Gauge - [**2139-8-7**] 07:50 PM
   PICC Line - [**2139-8-8**] 12:00 PM
   Prophylaxis:
   DVT: heparin SC, pneumoboots
   Stress ulcer:
   VAP:  elevated head of bed
   Comments:
   Communication:  Comments:  [**Last Name (LF) 8870**],[**Name (NI) **] (HCP/Friend) ([**Telephone/Fax (1) 8871**]
   Code status:  DNR, OK for CVL and pressors (confirmed with HCP).
   Disposition: On ventilator support. Getting stent placed today.
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points:  54 F DM, HTN, with resp failure in context
   of necrotizing pna vs mass and tracheoespoh fistula.  Recent
   presentation with weight loss, coughing and vomiting post ingestion of
   food with large R- sided consolidation/mass in right lung involving
   esophagus on CT chest, barium study demonstrates tracheo-esophageal
   fistula.  Failed stent placement attempt at [**Hospital3 **]
   Hosp. Transferred to [**Hospital Unit Name 1**] from SICU for supportive care prior to
   attempted intervention by GI with EGD and stent placement.
   Intermittent hypotension overnight responding to fluid boluses.
   Exam notable for Tm 98.8 BP 90/56 HR 55 RR 15 with sat on 99% on CMV
   400/12/5/50%-->7.38/41/116
   Obese F, intubated and sedated, rhonorous R > L, RR, brady, soft, + BS,
   + dep edema,
   Labs notable for WBC 13.9 (11), HCT 25.9, K+3.4, na 142, Cr 0.3,
   lactate 1.2.
   Micro--bronch bal ngtd, sputum neg
   CXRs and CT reviewed
   A/P: 54 yo female with respiratory failure in setting of
   broncho-esophageal fistula and necrotizing pneumonia vs mass, now
   hypotensive.
   #Hypotenion -- concerning for sepsis vs cardiac etiology including
   ischemia, compromised cardiac outpt, pericardial effusion given extent
   and location of lung process.
   --Place central line for CVP monitoring. A-line for invasive BP
   montoring.
   --Aggressive IVF  to maintain MAPS > 60, CVP 10-12, u/o > 30. trend
   lactate and check SVO2.
   --Pan cx and broaden antibx adding vanco to cefepime and clinda.
   --TTE to eval for possible RV compression given location of mass or
   pericardial effusion.  Ces and 12 lead ECG.
   # Respiratory Failure-continue full vent support, follow abg
   # Pneumonia vs mass with TE fistula
concern for possible eroding mass
   with superinfection vs  polymicrobial pna with significant necrosis.
   Given new hypotension, concern for new VAP as well.  Potential surgical
   options were discussed with pt
s family and given probable high
   operative mortality, not felt to be an acceptable option.  We continue
   to manage medically with plan for GI to perform EGD for both further
   diagnosis and therapeutic intervention with stent iwhen pt is stable to
   tolerate from HD standpoint.  Continue Cefepime and Clinda adding vanco
   given high concern for sepsis/VAP. Recx.  Sx for secretion clearance.
   Keep NPO, no NGT
   # Anemia--likely dilutional, w/o evidence of active bleeding,  will
   trend h/h, keep type and cross, check hemolysis labs and retic ct
   # ICU: picc line, PIV, place a-line and central line, PPI, sq hep,
   glucose control via ssi, DNR
   Remainder of plan as outlined in resident note.
   Patient is critically ill,
   Total time: 60 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2139-8-10**] 07:14 PM ------

2139-08-11 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2139-8-10**] 10:30 AM
 BLOOD CULTURED - At [**2139-8-10**] 10:49 AM
 TRANSTHORACIC ECHO - At [**2139-8-10**] 12:14 PM
 EKG - At [**2139-8-10**] 03:20 PM
 MULTI LUMEN - START [**2139-8-10**] 03:59 PM
 URINE CULTURE - At [**2139-8-10**] 04:49 PM
 ARTERIAL LINE - START [**2139-8-10**] 04:54 PM
   --Left IJ placed
   --R a-line failed
   --changed vent. settings to 6cc/kg, PEEP 8, ABG 7.40/38/89/24
   --Started on dopamine to increase pressures
   --Patient did not have procedure yesterday due to episodes of decreased
   pressures.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2139-8-10**] 08:16 AM
   Vancomycin - [**2139-8-10**] 11:54 AM
   Clindamycin - [**2139-8-10**] 06:12 PM
   Cefipime - [**2139-8-10**] 08:15 PM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Dopamine - 3 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-8-10**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2139-8-10**] 04:49 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-8-11**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.5
C (97.7
   HR: 53 (39 - 134) bpm
   BP: 94/52(63) {83/45(57) - 162/91(129)} mmHg
   RR: 12 (12 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 83 kg (admission): 78 kg
   Height: 59 Inch
    CVP: 13 (9 - 99)mmHg
   Total In:
                                                                  8,630 mL
                                                                    646 mL
   PO:
   TF:
   IVF:
                                                                  8,630 mL
                                                                    646 mL
   Blood products:
   Total out:
                                                                  1,246 mL
                                                                    365 mL
   Urine:
                                                                  1,246 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,384 mL
                                                                    281 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 460 (400 - 460) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 31 cmH2O
   Plateau: 29 cmH2O
   SpO2: 98%
   ABG: 7.38/40/111/23/0
   Ve: 5.2 L/min
   PaO2 / FiO2: 222
   Physical Examination
   Gen: Sedated in NAD
   HEENT: Perrl, sclerae anicteric. ETT in place.
   CV: Nl S1+S2
   Pulm: Rhonchorous throughout to anterior auscultation. Decreased
   breathsounds with rales at right base.
   Abd: S/NT/ND +bs
   Ext: Warm extremities. 1+ pretibial edema bilaterally.
   Neuro: Sedated, opens eyes to voice, does not follow commands.
   Labs / Radiology
   183 K/uL
   12.7 g/dL
   83 mg/dL
   0.3 mg/dL
   23 mEq/L
   3.9 mEq/L
   6 mg/dL
   112 mEq/L
   141 mEq/L
   37.9 %
   9.5 K/uL
                             [**2139-8-9**]  10:31 PM
                             [**2139-8-10**]  02:39 AM
                             [**2139-8-10**]  05:01 AM
                             [**2139-8-10**]  10:14 AM
                             [**2139-8-10**]  02:57 PM
                             [**2139-8-10**]  04:00 PM
                             [**2139-8-10**]  04:48 PM
                             [**2139-8-10**]  10:46 PM
                             [**2139-8-11**]  03:23 AM
                             [**2139-8-11**]  06:55 AM
   WBC
   13.9
   9.7
   9.5
   Hct
   25.9
   40.5
   41.4
   52
   37.9
   Plt
   [**Telephone/Fax (3) 8918**]
   Cr
   0.4
   0.3
   0.3
   0.3
   TCO2
   25
   22
   24
   25
   Glucose
   111
   109
   97
   83
   Other labs: PT / PTT / INR:16.9/32.8/1.5, ALT / AST:30/48, Alk Phos / T
   Bili:65/0.6, Amylase / Lipase:/15, Lactic Acid:2.0 mmol/L, Albumin:1.8
   g/dL, LDH:228 IU/L, Ca++:7.1 mg/dL, Mg++:1.6 mg/dL, PO4:1.7 mg/dL
   Fingersticks: 97-117-126-117-83
   Echo ([**2139-8-11**]): IMPRESSION: poor technical quality due to patient's
   body habitus. Left ventricular function is probably normal, a focal
   wall motion abnormality cannot be fully excluded. The right ventricle
   is not well seen. Moderate tricuspid regurgitation with mild pulmonary
   artery systolic hypertension. LVEF>55%.
   CXR ([**2139-8-11**]): Increased opacity on right lung field. Right has pleural
   effusion. Left pleural effusion resolved more than yesterday.
   Cultures:
    Blood ([**2139-8-10**]): negative to date
   Urine ([**2139-8-10**]): negative to date
   Assessment and Plan
 BRADYCARDIA
 TRACHEOBRONCHIAL DISEASE, OTHER (TRACHEA / BRONCHUS, INCLUDING
   INJURY)
 PNEUMONIA, ASPIRATION
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assessment and Plan: Ms. [**Known lastname 8360**] is a 54 female with a smoking history,
   hypertension, hyperlipidemia, type 2 diabetes transferred from an OSH
   for bronchoesophageal fistula and cavitary lung abscess/mass.
   .
   # Goals of care: Although a plan is laid out below, the ICU team will
   have to address goals of care and expectations with her HCP and family
   members.
   --organize a family meeting.
   .
   # Hypotension: Clinically, the patient appears euvolemic. Possible
   etiologies of hypotension include sepsis, poor cardiac output,
   hypovolemia, medication related and intubation related. Likely
   diagnoses include sepsis vs. cardiogenic shock. Sepsis possible,
   although lactates have not been high recently. Given patient
   bradycardia, poor cardiac output is also a possibility and there might
   be some compressive effect of the lung mass/abscess. Hypovolemia is
   less likely since she does not respond well to boluses, however, her
   urine is dark. The fentanyl drip can also be contributing to her
   vasodilation, but the benefits of the drip outweigh the risks.
   --Continue fluid boluses PRN and dopamine for a goal of UOP>30 and
   MAP>65.
   --Need to get an arterial line to assess delta PP.
   --Need to get a central venous line for access and to assess CVP and
   central venous O2.
   .
   # Acute lung injury: Patient was intubated at OSH, although unclear if
   this was secondary to respiratory failure or for bronchoscopy and upper
   endoscopy.  P/F ratio <300, so likely [**Doctor Last Name 11**]. Continue to intubate on CMV
   for goal tidal volume of 6cc/kg of ideal body weight.
   - Continue CMV.
   - Consider decreasing PEEP to see if better CO.
   - Decrease tidal volumes to 6cc/kg of ideal body weight and see if
   patient tolerates it.
   - Continue midaz gtt and fentaynl gtt
   #Bradycardia: Patient has been bradycardic in the setting of
   hypotension throughout her ICU stay. Had one EKG showing ectopic foci
   with inverted P waves. Unsure if sick sinus syndrome.
   --Consider decreasing dopamine drip slightly and see if HR increases
   appropriately. If it does not increase, then will call
   electrophysiology consult and see if needs pacing. Patient might need
   transcutaneous pacing.
   .
   # Bronchoesophageal fistula: CT esophogram and barium swallow
   concerning for RLL/RML lung abscess with a RLL bronchus communicating
   with distal esophagus. Given patient's significant smoking history,
   there is a concern that the underlying process is malignant (esophageal
   versus lung).  The patient has already been evaluated by Thoracic
   surgery, and her family/HCP have declined surgical intervention at this
   time.  Transfer to [**Hospital Unit Name 1**] with plan for GI intervention including EGD,
   biopsy, and possible stent placement.
   - Continue cefepime (started [**2139-8-9**]) and clindamycin (started [**2139-8-10**])
   for additional anaerobic coverage given primary lung abscess.
   - Follow-up pathology from [**Hospital6 300**]
   - f/u cultures
   .
   # Anemia: Hct currently stable. Low threshold to think bleeding,
   especially since has intrathoracic process.
   --follow Hct
   --guiaic stools
   --type and screen
   .
   # CV: Patient initially presented to OSH ED after PCP [**Name9 (PRE) **] with concern
   for afib. Since admission to OSH, no evidence of arrhythmia.
   - Monitor on telemetry
   - TTE today.
   .
   # DM 2: Continue HISS.
   .
   # HTN: Hold home lisinopril for now.
   .
   # Asthma: Continue albuterol/ipratropium MDI prn.
   ICU Care
   Nutrition: NPO. No fluids. Consider tube feedings or TPN.
   Glycemic Control:  HISS
   Lines:
   18 Gauge - [**2139-8-7**] 07:50 PM
   PICC Line - [**2139-8-8**] 12:00 PM
   Multi Lumen - [**2139-8-10**] 03:59 PM
   Arterial Line - [**2139-8-10**] 04:54 PM
   Prophylaxis:
   DVT: SC heparin, boots
   Stress ulcer:  famotidine
   VAP:  elevated head of bed
   Comments:
   Communication:  Comments:  [**Last Name (LF) 8870**],[**Name (NI) **] (HCP/Friend) ([**Telephone/Fax (1) 8925**]. Need to speak with family about expectations and goals of
   care before we change any current management.
   Code status:  DNR, OK for CVL and pressors (confirmed with HCP).
   Disposition: On ventilator support.
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points:  54 F DM, HTN, with resp failure in context
   of necrotizing pna vs mass and tracheoespoh fistula.  Failed stent
   placement attempt at [**Hospital3 **] Hosp. Transferred to [**Hospital Unit Name 1**] from SICU
   for supportive care prior to attempted intervention by GI with EGD and
   stent placement.
   Was hypotensive and bradycardic yesterday. Minimal response to IVF
   bolus despite CVP > 10. L IJ placed. Dopa started for bradycardia and
   hypotension.  Had TTE
LV ef > 55%, no focal wma but limited study
   Exam notable for Tm 98.8 BP 90/50 HR 50's RR 12-14 with sat on 98% on
   CMV 460/10/8/50%-->7.38/40/111    cvp 9-13, Obese F, intubated and
   sedated, rhonorous R > L, RR, brady, soft, + BS, + min dep edema,
   Labs with WBC 9.5  HCT 38, K+3.9, na 141, Cr 0.3, lactate 1.6
   Micro--bronch bal ngtd, sputum neg
   CXR--increased hazy infiltrate at RUL with stable R mass vs pna, et and
   picc in position
   ECG and tele reviewed
   54 yo female with respiratory failure in setting of broncho-esophageal
   fistula and necrotizing pneumonia vs mass, remains hypotensive and
   bradycardic on dopamine.
   Unclear etiology for her hypotension.  Initial concern for sepsis vs
   cardiac etiology.  Sepsis seems less likely as she remains Af, no
   leukocytosis, nl lactate, good urine o/p. Her TTE was rather
   unimpressive and showed no tamponade/effusion or focal WMA and her
   systolic fx is preserved.  She remains warm and well perfused.  Her
   bradycardia remains concerning though unclear whether her hypotension
   is fully related to this or not.  She likely has component of sinus
   nodal dysfx though with rates > 40 she maintains a sinus rhythm.  Low
   suspicion for relative adrenal insufficiency.
   Agree with plan to check SVO2.  Wean dopa. If bradycardia is
   contributing to hypotension, would obtain ep consult and consider
   pacing.  Consider swan placement to further assess etiology of
   hypotension, though unlikely to change our management. Random [**Last Name (un) 402**] and
   stim test to r/o adrenal insuff. F/u pending cx data and continue
   broaden antibx coverage with vanco, cefepime, clinda. Continue full
   vent support, follow abg, ards net TV. We remain concerned about
   malignancy/eroding mass with superinfection vs  polymicrobial pna with
   significant necrosis.  Potential surgical options were discussed with
   pt
s family and given probable high operative mortality, not felt to be
   an acceptable option. We will arrange family meeting to continue to
   communicate and address goals of care. We attempt to manage medically
   with plan for GI to perform EGD for diagnosis (bx) and therapeutic
   intervention with stent if pt stabilizes to tolerate from HD
   standpoint.  Nutrition remains another prime issue as pt remains NPO,
   w/o  NGT in light of fistula. Will start TPN. ICU: picc line, IJ, PIV,
   replace a-line PPI, sq hep, glucose control via ssi, DNR
   Remainder of plan as outlined in resident note.
   Patient is critically ill,
   Total time: 60 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2139-8-11**] 03:28 PM ------
   Unsuccessful A-line placement attempt for L femoral and R radial
   locations.  Ultrasound used to assist.  Sterile technique maintained
   throughout.  Unable to access artery in either location despite several
   attempts and procedure aborted.  Pt tolerated well with no immediate
   complications.  I was present throughout.   As pt remains on stable low
   dose of dopamine without escalating requirements and prior a-line
   correlated with cuff pressure will hold for now.
   30 min crit care time
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2139-8-11**] 06:16 PM ------

2139-08-12 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   --OSH records esoph bx, lung bx, BAL show no malignancy only
   necrotizing inflammation
   --weaned dopa to 1.5/hr
   Two boluses of 500 cc at 1am. Despite the boluses, the patient
   continued to have poor UOP and low MAP.
   Family meeting planned for 5 pm today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2139-8-10**] 08:16 AM
   Cefipime - [**2139-8-11**] 08:00 PM
   Vancomycin - [**2139-8-11**] 10:00 PM
   Clindamycin - [**2139-8-12**] 06:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Dopamine - 1.5 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-8-12**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2139-8-12**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-8-12**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.2
C (97.2
   HR: 75 (40 - 75) bpm
   BP: 78/51(58) {78/43(54) - 119/64(78)} mmHg
   RR: 13 (11 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.2 kg (admission): 78 kg
   Height: 59 Inch
    CVP: 8 (6 - 15)mmHg
   Mostly [**8-31**]
   Mixed Venous O2% Sat: 78 - 78
   Poor UOP: high teens, 30s recent shifts
   Total In:
                                                                  2,924 mL
                                                                    777 mL
   PO:
                                 TF:
   IVF:
                                                                  2,924 mL
                                                                    777 mL
   Blood products:
   Total out:
                                                                  1,282 mL
                                                                    207 mL
   Urine:
                                                                  1,282 mL
                                                                    207 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,642 mL
                                                                    570 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 460 (460 - 460) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   Compliance: 25.6 cmH2O/mL
   SpO2: 97%
   ABG: 7.38/40/111/24/0
   Ve: 7.5 L/min
   PaO2 / FiO2: 222
   Physical Examination
   Gen: Sedated in NAD
   HEENT: Perrl, sclerae anicteric. ETT in place.
   CV: Nl S1+S2
   Pulm: Rhonchorous throughout to anterior auscultation. Decreased
   breathsounds with rales at right base.
   Abd: S/NT/ND +bs
   Ext: Warm extremities. 1+ pretibial edema bilaterally.
   Neuro: Sedated, opens eyes to voice, does not follow commands.
   Labs / Radiology
   179 K/uL
   11.2 g/dL
   70 mg/dL
   0.3 mg/dL
   24 mEq/L
   3.6 mEq/L
   7 mg/dL
   111 mEq/L
   140 mEq/L
   34.9 %
   8.4 K/uL
        [image002.jpg]
                             [**2139-8-10**]  02:39 AM
                             [**2139-8-10**]  05:01 AM
                             [**2139-8-10**]  10:14 AM
                             [**2139-8-10**]  02:57 PM
                             [**2139-8-10**]  04:00 PM
                             [**2139-8-10**]  04:48 PM
                             [**2139-8-10**]  10:46 PM
                             [**2139-8-11**]  03:23 AM
                             [**2139-8-11**]  06:55 AM
                             [**2139-8-12**]  03:36 AM
   WBC
   13.9
   9.7
   9.5
   8.4
   Hct
   25.9
   40.5
   41.4
   52
   37.9
   34.9
   Plt
   [**Telephone/Fax (3) 8943**]79
   Cr
   0.3
   0.3
   0.3
   0.3
   TCO2
   25
   22
   24
   25
   Glucose
   109
   97
   83
   70
   Other labs: PT / PTT / INR:16.9/32.8/1.5, ALT / AST:30/48, Alk Phos / T
   Bili:65/0.6, Amylase / Lipase:/15, Lactic Acid:1.1 mmol/L, Albumin:1.9
   g/dL, LDH:228 IU/L, Ca++:7.1 mg/dL, Mg++:1.5 mg/dL, PO4:2.2 mg/dL
   Fingersticks: 94-[**Medical Record Number 8944**]
   --[**Last Name (un) 402**] stim 19->25
   AM cortisol: 8.9
   --CvO2 78
   CXR: bilateral pleural effusion. Increased congestion bilaterally
   (R>L).
   Cultures:
   Urine ([**2139-8-10**]): no growth, final
   Blood ([**2139-8-10**]): No growth to date
   Assessment and Plan
 BRADYCARDIA
 TRACHEOBRONCHIAL DISEASE, OTHER (TRACHEA / BRONCHUS, INCLUDING
   INJURY)
 PNEUMONIA, ASPIRATION
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assessment and Plan: Ms. [**Known lastname 8360**] is a 54 female with a smoking history,
   hypertension, hyperlipidemia, type 2 diabetes transferred from an OSH
   for bronchoesophageal fistula and cavitary lung abscess/mass.
   .
   # Goals of care: Although a plan is laid out below, the ICU team will
   have to address goals of care and expectations with her HCP and family
   members.
   --Family meeting today at 5pm.
   .
   # Hypotension: Clinically, the patient appears euvolemic. Possible
   etiologies of hypotension include sepsis, poor cardiac output,
   hypovolemia, medication related and intubation related. Likely
   diagnoses include sepsis vs. cardiogenic shock. Sepsis possible,
   although lactates have not been high recently. Given patient
   bradycardia, poor cardiac output is also a possibility and there might
   be some compressive effect of the lung mass/abscess (central venous
   oxygen high). Hypovolemia is less likely since she does not respond
   well to boluses, however, her urine is dark (Adequate CVPs, but
   complicated by tricuspid regurg and PEEP). The fentanyl drip can also
   be contributing to her vasodilation, but the benefits of the drip
   outweigh the risks.
   --Continue fluid boluses PRN and dopamine for a goal of UOP>30 and
   MAP>65.
   --Decrease DA and give albumin bolus. See if patient can tolerate
   weaning off pressors.
   --Uable to obtain A line.
   .
   # Acute lung injury: Patient was intubated at OSH, although unclear if
   this was secondary to respiratory failure or for bronchoscopy and upper
   endoscopy.  P/F ratio <300, so likely [**Doctor Last Name 11**]. Continue to intubate on CMV
   for goal tidal volume of 6cc/kg of ideal body weight.
   - Continue CMV.
   - Consider decreasing PEEP to see if better CO.
   - Decrease tidal volumes to 6cc/kg of ideal body weight and see if
   patient tolerates it. Increase RR to maintain TV.
   - Continue midaz gtt and fentaynl gtt
   --check ABG.
   --sedation holiday
   --continue nebs PRN
   #Bradycardia: Patient has been bradycardic in the setting of
   hypotension throughout her ICU stay. Had one EKG showing ectopic foci
   with inverted P waves. Unsure if sick sinus syndrome?, definite sinus
   node dysfunction.
   --Consider decreasing dopamine drip slightly and see if HR increases
   appropriately. If it does not increase, then will call
   electrophysiology consult and see if needs pacing. Patient might need
   transcutaneous pacing.
   .
   # Bronchoesophageal fistula: CT esophogram and barium swallow
   concerning for RLL/RML lung abscess with a RLL bronchus communicating
   with distal esophagus. OSH records say no areas of malignancy, but
   given patient's significant smoking history, there is a concern that
   the underlying process is malignant (esophageal versus lung).  The
   patient has already been evaluated by Thoracic surgery, and her
   family/HCP have declined surgical intervention at this time.  Transfer
   to [**Hospital Unit Name 1**] with plan for GI intervention including EGD, biopsy, and
   possible stent placement.
   - Continue cefepime (started [**2139-8-9**]) and clindamycin (started [**2139-8-10**])
   for additional anaerobic coverage given primary lung abscess.
   - Contact interventional pulmonology to see if they can obtain a tissue
   diagnosis.
   - f/u cultures
   .
   # Anemia: Hct currently stable. Low threshold to think bleeding,
   especially since has intrathoracic process.
   --follow Hct
   --guiaic stools
   --type and screen
   .
   # CV: Patient initially presented to OSH ED after PCP [**Name9 (PRE) **] with concern
   for afib. Since admission to OSH, no evidence of arrhythmia.
   - Monitor on telemetry
   .
   # DM 2: Continue HISS.
   .
   # HTN: Hold home lisinopril for now.
   .
   # Asthma: Continue albuterol/ipratropium MDI prn.
   ICU Care
   Nutrition: NPO. TPN ordered. Monitor glucose.
   Glycemic Control:  HISS.
   Lines:
   18 Gauge - [**2139-8-7**] 07:50 PM
   PICC Line - [**2139-8-8**] 12:00 PM
   Multi Lumen - [**2139-8-10**] 03:59 PM
   Prophylaxis:
   DVT: SC heparin, boots
   Stress ulcer:  famotidine
   VAP:  elevated head of bed
   Comments:
   Communication:  Comments:  [**Last Name (LF) 8870**],[**Name (NI) **] (HCP/Friend) ([**Telephone/Fax (1) 8925**]. Need to speak with family about expectations and goals of
   care before we change any current management. Family meeting planned.
   Code status:  DNR, OK for CVL and pressors (confirmed with HCP).
   Disposition: ICU level of care.

2139-08-13 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   --After tidal volumes were initially decreased, patient looked
   uncomfortable on the ventilator. Increased Tv slightly. CXR done and
   showed increased congestion on right. Given 10 mg IV lasix and
   responded. Still low UOP. Dopamine at 1.5 throughout night, breathing
   well on vent
   --cardiology saw the patient and said would defer any pacer treatment
   until patient is more stable.
   --interventional pulm said that they were not able to visualize a lung
   mass and an esophageal mass is possible. They believe no further role
   for IP.
   --had a family meeting to explain expectations of care. Stressed how
   getting a tissue biopsy might not change outcomes, however, family
   perseverates about obtaining a tissue biopsy.
   --ABG done, showing hypoxemia. Increased Tv to 350. Repeat ABG:
   7.37/50/122/30
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2139-8-10**] 08:16 AM
   Clindamycin - [**2139-8-12**] 05:07 PM
   Cefipime - [**2139-8-12**] 08:03 PM
   Vancomycin - [**2139-8-12**] 08:45 PM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Dopamine - 1.5 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2139-8-12**] 03:00 PM
   Famotidine (Pepcid) - [**2139-8-13**] 12:26 AM
   Heparin Sodium (Prophylaxis) - [**2139-8-13**] 12:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-8-13**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 65 (40 - 84) bpm
   BP: 95/69(74) {82/44(51) - 131/69(88)} mmHg
   RR: 16 (12 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.2 kg (admission): 78 kg
   Height: 59 Inch
    CVP: 10 (9 - 19)mmHg
   Total In:
                                                                  3,032 mL
                                                                    441 mL
   PO:
   TF:
   IVF:
                                                                  2,243 mL
                                                                    160 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  1,374 mL
                                                                    210 mL
   Urine:
                                                                  1,374 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,658 mL
                                                                    231 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (270 - 460) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: 7.37/50/122/30
   Ve: 4.9 L/min
   PaO2 / FiO2: 138
   Physical Examination
   Gen: Sedated in NAD
   HEENT: Perrl, sclerae anicteric. ETT in place.
   CV: Nl S1+S2
   Pulm: Rhonchorous throughout to anterior auscultation. Decreased breath
   sounds with rales at right base. Crackles heard throughout
   Abd: S/NT/ND +bs
   Ext: Warm extremities. 1+ pretibial edema bilaterally.
   Neuro: Sedated, opens eyes to voice, follows commands.
   Labs / Radiology
   178 K/uL
   11.5 g/dL
   103 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.3 mEq/L
   11 mg/dL
   110 mEq/L
   140 mEq/L
   34.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2139-8-10**]  04:00 PM
                             [**2139-8-10**]  04:48 PM
                             [**2139-8-10**]  10:46 PM
                             [**2139-8-11**]  03:23 AM
                             [**2139-8-11**]  06:55 AM
                             [**2139-8-12**]  03:36 AM
                             [**2139-8-12**]  12:07 PM
                             [**2139-8-12**]  04:11 PM
                             [**2139-8-13**]  03:14 AM
                             [**2139-8-13**]  04:41 AM
   WBC
   9.5
   8.4
   8.0
   Hct
   52
   37.9
   34.9
   34.7
   Plt
   183
   179
   178
   Cr
   0.3
   0.3
   0.3
   0.4
   TCO2
   22
   24
   25
   26
   29
   Glucose
   83
   70
   80
   103
   Other labs: PT / PTT / INR:16.9/32.8/1.5, ALT / AST:30/48, Alk Phos / T
   Bili:65/0.6, Amylase / Lipase:/15, Lactic Acid:1.1 mmol/L, Albumin:1.9
   g/dL, LDH:228 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   CXR ([**2139-8-12**]): bilateral PE. Increased interstitial markings on right
   side.
   Assessment and Plan
 BRADYCARDIA
 TRACHEOBRONCHIAL DISEASE, OTHER (TRACHEA / BRONCHUS, INCLUDING
   INJURY)
 PNEUMONIA, ASPIRATION
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assessment and Plan: Ms. [**Known lastname 8360**] is a 54 female with a smoking history,
   hypertension, hyperlipidemia, type 2 diabetes transferred from an OSH
   for bronchoesophageal fistula and cavitary lung abscess/mass.
   .
   # Hypotension: Clinically, the patient appears euvolemic. Possible
   etiologies of hypotension include sepsis, poor cardiac output,
   hypovolemia, medication related and intubation related. Likely
   diagnoses include sepsis vs. cardiogenic shock. Sepsis possible,
   although lactates have not been high recently. Given patient
   bradycardia, poor cardiac output is also a possibility and there might
   be some compressive effect of the lung mass/abscess (central venous
   oxygen high). Hypovolemia is less likely since she does not respond
   well to boluses, however, her urine is dark (Adequate CVPs, but
   complicated by tricuspid regurg and PEEP). The fentanyl drip can also
   be contributing to her vasodilation, but the benefits of the drip
   outweigh the risks.
   --Continue fluid boluses PRN and dopamine for a goal of UOP>30 and
   MAP>65.
   --Continue dopamine to maintain goals.
   --Future management will depend of GI input.
   .
   # Bronchoesophageal fistula: CT esophogram and barium swallow
   concerning for RLL/RML lung abscess with a RLL bronchus communicating
   with distal esophagus. OSH records say no areas of malignancy, but
   given patient's significant smoking history, there is a concern that
   the underlying process is malignant (esophageal versus lung).  The
   patient has already been evaluated by Thoracic surgery, and her
   family/HCP have declined surgical intervention at this time.  Transfer
   to [**Hospital Unit Name 1**] with plan for GI intervention including EGD, biopsy, and
   possible stent placement.
   - Continue cefepime (started [**2139-8-9**]), vanco (started [**2139-8-9**])  and
   clindamycin (started [**2139-8-10**]) for additional anaerobic coverage given
   primary lung abscess.
   - Will need to speak with GI about possibility of scope and stent
   placement. Once get their input, will alter management of other issues.
   - f/u cultures from OSH and blood cx here
   - Consider IR involvement in obtaining tissue.
   # Acute lung injury: Patient was intubated at OSH, although unclear if
   this was secondary to respiratory failure or for bronchoscopy and upper
   endoscopy.  P/F ratio <300, so likely [**Doctor Last Name 11**]. Continue to intubate on CMV
   for goal tidal volume of 6cc/kg of ideal body weight.
   - Continue CMV.
   - Consider decreasing PEEP to see if better CO.
   - Follow ARDS protocol for tidal volume of 6cc/kg.
   - Continue midaz gtt and fentaynl gtt
   --check ABG.
   --sedation holiday
   --continue nebs PRN
   --start thinking about switching to trach if long term ventilation.
   #Bradycardia: Patient has been bradycardic in the setting of
   hypotension throughout her ICU stay. Had one EKG showing ectopic foci
   with inverted P waves. Unsure if sick sinus syndrome?, definite sinus
   node dysfunction. Bradycardia might be attributing to pressor needs.
   --cardiology thinks bradycardia likely due to sepsis. Might be some
   cardiac component, but will defer treatment until patient recovers.
   --Can consider transcutaneous pacing.
   .
   .
   # Anemia: Hct currently stable. Low threshold to think bleeding,
   especially since has intrathoracic process.
   --follow Hct
   --guiaic stools
   .
   # CV: Patient initially presented to OSH ED after PCP [**Name9 (PRE) **] with concern
   for afib. Since admission to OSH, no evidence of arrhythmia.
   - Monitor on telemetry
   .
   # DM 2: Continue HISS.
   .
   # HTN: Hold home lisinopril for now.
   .
   # Asthma: Continue albuterol/ipratropium MDI prn.
   ICU Care
   Nutrition: TPN started.  Speak with GI about post-pyloric tube
   placement.
   Glycemic Control:  HISS.
   Lines:
   18 Gauge - [**2139-8-7**] 07:50 PM
   PICC Line - [**2139-8-8**] 12:00 PM
   Multi Lumen - [**2139-8-10**] 03:59 PM
   Prophylaxis:
   DVT: SC heparin, boots
   Stress ulcer:  famotidine
   VAP:  elevated head of bed
   Comments:
   Communication:  Comments:  [**Last Name (LF) 8870**],[**Name (NI) **] (HCP/Friend) ([**Telephone/Fax (1) 8925**]. Need to speak with family about expectations and goals of
   care before we change any current management. Family meeting planned.
   Code status:  DNR, OK for CVL and pressors (confirmed with HCP).
   Disposition: ICU level of care.

2139-08-14 06:57:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   HPI:
   24 Hour Events:
 ENDOSCOPY - At [**2139-8-13**] 05:31 PM
   --EGD showed friable tissue, mid-esophageal stricture and foreign body
   in esophagous.  Could not advance distal to stricture.
   --two episodes of afib w/ rvr up to 150s, converted spontaneously
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2139-8-13**] 05:35 PM
   Cefipime - [**2139-8-13**] 07:11 PM
   Vancomycin - [**2139-8-13**] 08:00 PM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Dopamine - 2 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-8-14**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2139-8-14**] 12:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-8-14**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.6
C (99.7
   HR: 73 (64 - 124) bpm
   BP: 93/51(61) {70/40(47) - 140/94(105)} mmHg
   RR: 16 (13 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.6 kg (admission): 78 kg
   Height: 59 Inch
   CVP: 11 (11 - 13)mmHg
   Total In:
                                                                  2,106 mL
                                                                    462 mL
   PO:
   TF:
   IVF:
                                                                  1,205 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                    635 mL
   Urine:
                                                                  1,095 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,011 mL
                                                                   -173 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 22 cmH2O
   SpO2: 94%
   ABG: 7.37/50/122/24/2
   Ve: 6.5 L/min
   PaO2 / FiO2: 244
   Physical Examination
   Gen: Sedated in NAD
   HEENT: Perrl, sclerae anicteric. ETT in place.
   CV: Nl S1+S2
   Pulm: Rhonchorous throughout to anterior auscultation. Decreased breath
   sounds with rales at right base. Crackles heard throughout
   Abd: S/NT/ND +bs
   Ext: Warm extremities. 1+ pretibial edema bilaterally.
   Neuro: Sedated, opens eyes to voice, follows commands.
   Labs / Radiology
   11.9 g/dL
   152 K/uL
   107 mg/dL
   0.4 mg/dL
   24 mEq/L
   4.2 mEq/L
   12 mg/dL
   108 mEq/L
   139 mEq/L
   34.7 %
   9.8 K/uL
                             [**2139-8-10**]  10:46 PM
                             [**2139-8-11**]  03:23 AM
                             [**2139-8-11**]  06:55 AM
                             [**2139-8-12**]  03:36 AM
                             [**2139-8-12**]  12:07 PM
                             [**2139-8-12**]  04:11 PM
                             [**2139-8-13**]  03:14 AM
                             [**2139-8-13**]  04:41 AM
                             [**2139-8-13**]  06:57 AM
                             [**2139-8-14**]  02:48 AM
   WBC
   9.5
   8.4
   8.0
   9.8
   Hct
   37.9
   34.9
   34.7
   34.7
   Plt
   183
   179
   178
   152
   Cr
   0.3
   0.3
   0.3
   0.4
   0.4
   TCO2
   24
   25
   26
   29
   30
   Glucose
   83
   70
   80
   103
   107
   Other labs: PT / PTT / INR:16.9/32.8/1.5, ALT / AST:30/48, Alk Phos / T
   Bili:65/0.6, Amylase / Lipase:/15, Lactic Acid:1.1 mmol/L, Albumin:1.9
   g/dL, LDH:228 IU/L, Ca++:7.4 mg/dL, Mg++:1.6 mg/dL, PO4:2.1 mg/dL
   Cultures:
   --blood culture ([**8-10**]): negative to date
   Assessment and Plan
 BRADYCARDIA
 TRACHEOBRONCHIAL DISEASE, OTHER (TRACHEA / BRONCHUS, INCLUDING
   INJURY)
 PNEUMONIA, ASPIRATION
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assessment and Plan: Ms. [**Known lastname 8360**] is a 54 female with a smoking history,
   hypertension, hyperlipidemia, type 2 diabetes transferred from an OSH
   for bronchoesophageal fistula and cavitary lung abscess/mass.
   .
   # Hypotension: Clinically, the patient appears euvolemic. Possible
   etiologies of hypotension include sepsis, poor cardiac output,
   hypovolemia, medication related and intubation related. Likely
   diagnoses include sepsis vs. cardiogenic shock. Sepsis possible,
   although lactates have not been high recently. Given patient
   bradycardia, poor cardiac output is also a possibility and there might
   be some compressive effect of the lung mass/abscess (central venous
   oxygen high). Hypovolemia is less likely since she does not respond
   well to boluses, however, her urine is dark (Adequate CVPs, but
   complicated by tricuspid regurg and PEEP). The fentanyl drip can also
   be contributing to her vasodilation, but the benefits of the drip
   outweigh the risks.
   --Continue fluid boluses PRN and dopamine for a goal of UOP>30 and
   MAP>65.
   --Continue dopamine to maintain goals.
   --Future management will depend of GI input.
   .
   # Bronchoesophageal fistula: CT esophogram and barium swallow
   concerning for RLL/RML lung abscess with a RLL bronchus communicating
   with distal esophagus. OSH records say no areas of malignancy, but
   given patient's significant smoking history, there is a concern that
   the underlying process is malignant (esophageal versus lung).  The
   patient has already been evaluated by Thoracic surgery, and her
   family/HCP have declined surgical intervention at this time.  Transfer
   to [**Hospital Unit Name 1**] with plan for GI intervention including EGD, biopsy, and
   possible stent placement.
   - Continue cefepime (started [**2139-8-9**]), vanco (started [**2139-8-9**])  and
   clindamycin (started [**2139-8-10**]) for additional anaerobic coverage given
   primary lung abscess.
   - Will need to speak with GI about possibility of scope and stent
   placement. Once get their input, will alter management of other issues.
   - f/u cultures from OSH and blood cx here
   - Consider IR involvement in obtaining tissue.
   # Acute lung injury: Patient was intubated at OSH, although unclear if
   this was secondary to respiratory failure or for bronchoscopy and upper
   endoscopy.  P/F ratio <300, so likely [**Doctor Last Name 11**]. Continue to intubate on CMV
   for goal tidal volume of 6cc/kg of ideal body weight.
   - Continue CMV.
   - Consider decreasing PEEP to see if better CO.
   - Follow ARDS protocol for tidal volume of 6cc/kg.
   - Continue midaz gtt and fentaynl gtt
   --check ABG.
   --sedation holiday
   --continue nebs PRN
   --start thinking about switching to trach if long term ventilation.
   #Bradycardia: Patient has been bradycardic in the setting of
   hypotension throughout her ICU stay. Had one EKG showing ectopic foci
   with inverted P waves. Unsure if sick sinus syndrome?, definite sinus
   node dysfunction. Bradycardia might be attributing to pressor needs.
   --cardiology thinks bradycardia likely due to sepsis. Might be some
   cardiac component, but will defer treatment until patient recovers.
   --Can consider transcutaneous pacing.
   .
   .
   # Anemia: Hct currently stable. Low threshold to think bleeding,
   especially since has intrathoracic process.
   --follow Hct
   --guiaic stools
   .
   # CV: Patient initially presented to OSH ED after PCP [**Name9 (PRE) **] with concern
   for afib. Since admission to OSH, no evidence of arrhythmia.
   - Monitor on telemetry
   .
   # DM 2: Continue HISS.
   .
   # HTN: Hold home lisinopril for now.
   .
   # Asthma: Continue albuterol/ipratropium MDI prn.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2139-8-13**] 06:36 PM 42 mL/hour
   Glycemic Control:  HISS
   Lines:
   PICC Line - [**2139-8-8**] 12:00 PM
   Multi Lumen - [**2139-8-10**] 03:59 PM
   Prophylaxis:
   DVT: heparin SC, boots
   Stress ulcer: famotidine
   VAP: elevated HOB
   Comments:
   Communication:  Comments: Family meeting today
   Code status: Confirmed DNR. OK pressors, lines
   Disposition : ICU level of care
   Total time spent:

2139-08-14 12:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2139-8-13**] 05:31 PM
   --EGD showed friable tissue, mid-esophageal stricture and foreign body
   in esophagus. About 25 cm down the esophagus there is a stricture. The
   visualized area to the 3^rd part of the esophagus was normal. The
   foreign body was removed. Biopsies were taken.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2139-8-13**] 05:35 PM
   Cefipime - [**2139-8-14**] 08:08 AM
   Vancomycin - [**2139-8-14**] 09:07 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Dopamine - 2.3 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-8-14**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2139-8-14**] 08:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-8-14**] 12:29 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.9
   HR: 106 (64 - 124) bpm
   BP: 122/64(79) {70/40(47) - 140/94(105)} mmHg
   RR: 15 (14 - 24) insp/min
   SpO2: 96%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 95.6 kg (admission): 78 kg
   Height: 59 Inch
             Total In:
                                                                  2,106 mL
                                                                  1,106 mL
   PO:
             TF:
   IVF:
                                                                  1,205 mL
                                                                    582 mL
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                  1,005 mL
   Urine:
                                                                  1,095 mL
                                                                  1,005 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,011 mL
                                                                    101 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 25 cmH2O
   SpO2: 96%
   ABG: 7.40/50/81.[**Numeric Identifier 508**]/24/4
   Ve: 5.1 L/min
   PaO2 / FiO2: 164
   Physical Examination
   Gen: Sedated in NAD.
   HEENT: PERRL, anicteric sclerae, ETT in place
   HR: Nl S1, S2. No MRG.
   Pulm: Rhonchorous throughout to anterior auscultation. Wheezes heard
   throughout.
   Abd: S/NT/ND. Obese. No bowel sounds
   Ext: Warm extermeities. 1+ pretibial edema.
   Neuro: sedated, opens eyes to name, follows command and can squeeze
   hand/wiggle toes.
   Skin: On forearm, erythematous, blanching  macules on the anterior
   surface of the arms. On the back, there are erythematous macules in the
   contact areas on the skin.
   Labs / Radiology
   152 K/uL
   11.9 g/dL
   107 mg/dL
   0.4 mg/dL
   24 mEq/L
   4.2 mEq/L
   12 mg/dL
   108 mEq/L
   139 mEq/L
   34.7 %
   9.8 K/uL
        [image002.jpg]
                             [**2139-8-11**]  03:23 AM
                             [**2139-8-11**]  06:55 AM
                             [**2139-8-12**]  03:36 AM
                             [**2139-8-12**]  12:07 PM
                             [**2139-8-12**]  04:11 PM
                             [**2139-8-13**]  03:14 AM
                             [**2139-8-13**]  04:41 AM
                             [**2139-8-13**]  06:57 AM
                             [**2139-8-14**]  02:48 AM
                             [**2139-8-14**]  06:50 AM
   WBC
   9.5
   8.4
   8.0
   9.8
   Hct
   37.9
   34.9
   34.7
   34.7
   Plt
   183
   179
   178
   152
   Cr
   0.3
   0.3
   0.3
   0.4
   0.4
   TCO2
   25
   26
   29
   30
   32
   Glucose
   83
   70
   80
   103
   107
   Other labs: PT / PTT / INR:16.9/32.8/1.5, ALT / AST:30/48, Alk Phos / T
   Bili:65/0.6, Amylase / Lipase:/15, Lactic Acid:1.1 mmol/L, Albumin:1.9
   g/dL, LDH:228 IU/L, Ca++:7.4 mg/dL, Mg++:1.6 mg/dL, PO4:2.1 mg/dL
   Fingersticks: 132-139-143
   Blood culture ([**8-10**]): negative to date
   CXR: bilateral pleural effusion. Increased fluid accumulation
   bilaterally.
   Assessment and Plan
 BRADYCARDIA
 TRACHEOBRONCHIAL DISEASE, OTHER (TRACHEA / BRONCHUS, INCLUDING
   INJURY)
 PNEUMONIA, ASPIRATION
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assessment and Plan: Ms. [**Known lastname 8360**] is a 54 female with a smoking history,
   hypertension, hyperlipidemia, type 2 diabetes transferred from an OSH
   for bronchoesophageal fistula and cavitary lung abscess/mass.
   .
   # Hypotension: Clinically, the patient appears euvolemic. Possible
   etiologies of hypotension include sepsis, poor cardiac output,
   hypovolemia, medication related and intubation related. Likely
   diagnoses include sepsis vs. cardiogenic shock. Sepsis possible,
   although lactates have not been high recently. Given patient
   bradycardia, poor cardiac output is also a possibility and there might
   be some compressive effect of the lung mass/abscess (central venous
   oxygen high). Hypovolemia is less likely since she does not respond
   well to boluses, however, her urine is dark (Adequate CVPs, but
   complicated by tricuspid regurg and PEEP). The fentanyl drip can also
   be contributing to her vasodilation, but the benefits of the drip
   outweigh the risks.
   --Continue fluid boluses PRN and dopamine for a goal of UOP>30 and
   MAP>65.
   --Continue dopamine to maintain goals.
   .
   # Bronchoesophageal fistula: CT esophogram and barium swallow
   concerning for RLL/RML lung abscess with a RLL bronchus communicating
   with distal esophagus. OSH records say no areas of malignancy, but
   given patient's significant smoking history, there is a concern that
   the underlying process is malignant (esophageal versus lung).  The
   patient has already been evaluated by Thoracic surgery, and her
   family/HCP have declined surgical intervention at this time.  Transfer
   to [**Hospital Unit Name 1**] with plan for GI intervention including EGD, biopsy, and
   possible stent placement.
   - Continue cefepime (started [**2139-8-9**]), vanco (started [**2139-8-9**])  and
   clindamycin (started [**2139-8-10**]) for additional anaerobic coverage given
   primary lung abscess.
   - f/u cultures from OSH and blood cx here
   - Consider IR involvement in obtaining tissue.
   - F/u GI biopsy. Will try to obtain prelim results of path.
   - Consider diuresing pateint or doing a Swan to assess CO, TSVR. Will
   clarify goals with family.
   # Acute lung injury: Patient was intubated at OSH, although unclear if
   this was secondary to respiratory failure or for bronchoscopy and upper
   endoscopy.  P/F ratio <300, so likely [**Doctor Last Name 11**]. Continue to intubate on CMV
   for goal tidal volume of 6cc/kg of ideal body weight.
   - Continue CMV.
   - Consider decreasing PEEP to see if better CO.
   - Follow ARDS protocol for tidal volume of 6cc/kg.
   - Continue midaz gtt and fentaynl gtt
   --check ABG daily.
   --sedation holiday
   --continue nebs PRN
   --start thinking about switching to trach if long term ventilation.
   #Bradycardic with episodes of A. fib with RVR: Patient has been
   bradycardic in the setting of hypotension throughout her ICU stay. On
   [**8-13**], patient had A. fib with RVR, reported previously at OSH. Had one
   EKG showing ectopic foci with inverted P waves. Unsure if sick sinus
   syndrome?, definite sinus node dysfunction. Bradycardia might be
   attributing to pressor needs. Current HR might be be lower than
   appropriate physiological response.
   --cardiology thinks bradycardia likely due to sepsis. Might be some
   cardiac component, but will defer treatment until patient recovers.
   --Can consider transcutaneous pacing.
   #Rash: contact derm vs. candidal infection vs. drug rash. Drug eruption
   unlikely.
   --Will clarify goals of treatment with HCP and then decide treatment
   today.
   .
   # Anemia: Hct currently stable. Low threshold to think bleeding,
   especially since has intrathoracic process.
   --follow Hct
   --guiaic stools
   .
   # Asthma: Continue albuterol/ipratropium MDI prn.
   # DM 2: Continue HISS.
   .
   # HTN: Hold home lisinopril for now.
   .
   ICU Care
   Nutrition:
   TPN without Lipids - [**2139-8-13**] 06:36 PM 42 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-8-8**] 12:00 PM. Will pull PICC line today
   Multi Lumen - [**2139-8-10**] 03:59 PM
   Prophylaxis:
   DVT: Heparin SC, boots
   Stress ulcer:  famotidine
   VAP:  elevated HOB
   Comments:
   Communication:  Comments: Family meeting today
   Code status:  DNR. Pressors/lines ok. Confirmed with HCP.
   Disposition: ICU level of care.
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points:  54 F with resp failure in context of
   extensive R necrotizing pna vs mass (likely esoph) and tracheoesoph
   fistula.   She remains on full vent support, hypotensive on minimal
   dopa. EGD yesterday with extensive bxs
 showed large ulcerated mass in
   mid esoph with stricture beyond, unable to advance scope further, ?
   foreign body removed (? food particle).  She had 2 episodes of A-fib
   with rvr overnight which resolved spontaneously.
   AF  90-100 sys  HR 70-80 RR 16    94% on CMV 350/14/10/50%  cvp 10-16
   Intubated, sedated, opens eyes to voice, rhonorous R > L
   w/ intermittent wheeze, RR, soft, + BS, + dep edema, new patchy macular
   rash over b/l forearms, confluent/blanching erythematous macular rash
   over back, paring the spine
   WBC 9.8, HCT 35, na 139, Cr 0.4, ag 5, 7.4/50/82
   Micro--ngtd
   CXR --increased edema and effusions b/l, small volumes, R
   infiltrate/mass, et and ij in position
   She remains in resp failure, hypotensive, now in atrial-fib
   intermittently. She has extensive involvement of R lung/esophagus with
   TE fistula.  Egd results appear highly s/o advanced esoph malignancy
   with distal stricture.  The lung involvement seems most likely a
   polymicrobial pna /abscess related to the fistula and due to the esoph
   stricture we are unable to place stent to occlude the connection and
   contain ongoing infection. Whether a malignancy or not, this
   unfortunate pt
s prognosis is extremely grim as we are very limited in
   our ability to treat/limit ongoing infection/repair the fistula. We
   await prelim path results from the esoph bx, as this may help further
   guide discussions, though her overall prognosis remains poor.  We will
   continue current support, updating family and addressing goals of care.
   We do suspect that sinus node dysfx may be contributing to her
   hypotension with underlying infection of the lung/abcessed space likely
   the inciting etiology.  We have considered swan placement to better
   assess her pressor needs, though given her overall poor prognosis and
   the fact that information is unlikely to change our management, we will
   hold off.  She is more volume overloaded with third spacing and
   interstitial edema.  She remains AF without leukocytosis on boad antibx
   coverage, with stable cr and adequate urine outpt. We continue full
   vent support, follow abgs, using ards net TV.  Will continue TPN for
   nutrition. ICU: will d/c picc, IJ, PPI, sq hep, ssi
   She is DNR, will continue to work with family to address goals of care
   given grim prognosis.
   Remainder of plan as outlined in resident note.
   Patient is critically ill,
   Total time spent 70 min
   Addendum
   I met with pt
s HCP and family and updated them as to her
   condition/status.  All questions were answered.  Family is aware of
   poor prognosis and our limited ability to manage and treat her
   underlying process given ongoing connection between her esoph and lungs
   leading to ongoing infection. We will continue the current level of
   care and await esoph bx results. Family is likely moving toward CMO,
   after this additional information is available.
   Additional 30 min spent in mtg
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2139-8-14**] 05:33 PM ------

2139-08-15 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - STOP [**2139-8-14**] 03:29 PM
   --family mtg: waiting for path, if cancer will likely be CMO
   --weaned off dopa at 1800 to good effect, had occasional brief self
   limited runs of SVT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2139-8-14**] 07:40 PM
   Vancomycin - [**2139-8-14**] 08:45 PM
   Clindamycin - [**2139-8-15**] 06:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Dopamine - 0.9 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-8-14**] 11:52 PM
   Heparin Sodium (Prophylaxis) - [**2139-8-14**] 11:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-8-15**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.3
   HR: 77 (68 - 106) bpm
   BP: 108/60(71) {83/36(57) - 122/64(79)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.6 kg (admission): 78 kg
   Height: 59 Inch
             Total In:
                                                                  2,252 mL
                                                                    602 mL
   PO:
             TF:
   IVF:
                                                                  1,119 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                  1,540 mL
                                                                    340 mL
   Urine:
                                                                  1,540 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    712 mL
                                                                    262 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 25 cmH2O
   SpO2: 96%
   ABG:
   Ve: 5.6 L/min
   Physical Examination
   Gen: Sedated in NAD.
   HEENT: PERRL, anicteric sclerae, ETT in place
   HR: Nl S1, S2. No MRG.
   Pulm: Rhonchorous throughout to anterior auscultation. Wheezes heard
   throughout.
   Abd: S/NT/ND. Obese. No bowel sounds
   Ext: Warm extermeities. 1+ pretibial edema.
   Neuro: sedated, opens eyes to name, follows command and can squeeze
   hand/wiggle toes.
   Skin: On forearm, erythematous, blanching  macules on the anterior
   surface of the arms. On the back, there are erythematous macules in the
   contact areas on the skin.
   Labs / Radiology
   167 K/uL
   11.5 g/dL
   120 mg/dL
   0.3 mg/dL
   30 mEq/L
   4.1 mEq/L
   14 mg/dL
   106 mEq/L
   139 mEq/L
   35.2 %
   8.8 K/uL
        [image002.jpg]
                             [**2139-8-11**]  06:55 AM
                             [**2139-8-12**]  03:36 AM
                             [**2139-8-12**]  12:07 PM
                             [**2139-8-12**]  04:11 PM
                             [**2139-8-13**]  03:14 AM
                             [**2139-8-13**]  04:41 AM
                             [**2139-8-13**]  06:57 AM
                             [**2139-8-14**]  02:48 AM
                             [**2139-8-14**]  06:50 AM
                             [**2139-8-15**]  03:39 AM
   WBC
   8.4
   8.0
   9.8
   8.8
   Hct
   34.9
   34.7
   34.7
   35.2
   Plt
   179
   178
   152
   167
   Cr
   0.3
   0.3
   0.4
   0.4
   0.3
   TCO2
   25
   26
   29
   30
   32
   Glucose
   70
   80
   103
   107
   120
   Other labs: PT / PTT / INR:16.9/32.8/1.5, ALT / AST:30/48, Alk Phos / T
   Bili:65/0.6, Amylase / Lipase:/15, Lactic Acid:1.1 mmol/L, Albumin:1.9
   g/dL, LDH:228 IU/L, Ca++:7.5 mg/dL, Mg++:1.6 mg/dL, PO4:2.6 mg/dL
   FBG: 129-174
   CXR: bilateral pleural effusion. Increased pulmonary congestion, more
   increased on left since previous.
   Cultures:
   --blood culture: pending
   Assessment and Plan
 BRADYCARDIA
 TRACHEOBRONCHIAL DISEASE, OTHER (TRACHEA / BRONCHUS, INCLUDING
   INJURY)
 PNEUMONIA, ASPIRATION
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assessment and Plan: Ms. [**Known lastname 8360**] is a 54 female with a smoking history,
   hypertension, hyperlipidemia, type 2 diabetes transferred from an OSH
   for bronchoesophageal fistula and cavitary lung abscess/mass.
   # Bronchoesophageal fistula: CT esophogram and barium swallow
   concerning for RLL/RML lung abscess with a RLL bronchus communicating
   with distal esophagus. OSH records say no areas of malignancy, but
   given patient's significant smoking history and
   location/characteristics of mass, there is a concern that the
   underlying process is malignant (esophageal versus lung).  The patient
   has already been evaluated by Thoracic surgery, and her family/HCP have
   declined surgical intervention at this time.  Transfer to [**Hospital Unit Name 1**] with
   plan for GI intervention including EGD, biopsy, and possible stent
   placement.
   - Continue cefepime (started [**2139-8-9**]), vanco (started [**2139-8-9**])  and
   clindamycin (started [**2139-8-10**]) for additional anaerobic coverage given
   primary lung abscess.
   - OSH records from bronch showed normal flora
   - cultures here have been negative for growth
   - Consider IR involvement in obtaining tissue.
   - F/u GI biopsy. Will try to obtain prelim results of path.
   - Consider diuresing pateint or doing a Swan to assess CO, TSVR. Will
   clarify goals with family.
   # Acute lung injury: Patient was intubated at OSH, although unclear if
   this was secondary to respiratory failure or for bronchoscopy and upper
   endoscopy.  P/F ratio <300, so likely [**Doctor Last Name 11**]. Continue to intubate on CMV
   for goal tidal volume of 6cc/kg of ideal body weight.
   - Continue CMV. Follow ARDS protocol for tidal volume of 6cc/kg.
   - Continue midaz gtt and fentaynl gtt
   --check ABG daily.
   --sedation holiday
   --continue nebs PRN
   --start thinking about switching to trach if long term ventilation.
   # Hypotension: Clinically, the patient appears euvolemic. Possible
   etiologies of hypotension include sepsis, poor cardiac output,
   hypovolemia, medication related and intubation related. Likely
   diagnoses include sepsis vs. cardiogenic shock. Sepsis possible,
   although lactates have not been high recently. Given patient
   bradycardia, poor cardiac output is also a possibility and there might
   be some compressive effect of the lung mass/abscess (central venous
   oxygen high). Hypovolemia is less likely since she does not respond
   well to boluses, however, her urine is dark (Adequate CVPs, but
   complicated by tricuspid regurg and PEEP). The fentanyl drip can also
   be contributing to her vasodilation, but the benefits of the drip
   outweigh the risks.
   --Continue fluid boluses PRN and dopamine for a goal of UOP>30 and
   MAP>65.
   .
   #Bradycardic with episodes of A. fib with RVR: HR has improved. In the
   past, the patient has been bradycardic in the setting of hypotension
   throughout her ICU stay. On [**8-13**], patient had A. fib with RVR, reported
   previously at OSH. Had one EKG showing ectopic foci with inverted P
   waves. Unsure if sick sinus syndrome?, definite sinus node dysfunction.
   Bradycardia might be attributing to previous pressor needs.
   --cardiology thinks bradycardia likely due to sepsis. Might be some
   cardiac component, but will defer treatment until patient recovers.
   --Can consider transcutaneous pacing.
   #Rash: contact derm vs. candidal infection vs. drug rash. Drug eruption
   unlikely.
   --Will clarify goals of treatment with HCP and then decide treatment
   today.
   .
   # Anemia: Hct currently stable.
   --follow Hct
   .
   # Asthma: Continue albuterol/ipratropium MDI prn.
   # DM 2: Continue HISS.
   .
   # HTN: Hold home lisinopril for now.
   ICU Care
   Nutrition: TPN.
   TPN w/ Lipids - [**2139-8-14**] 05:55 PM 62 mL/hour
   Glycemic Control:  HISS
   Lines:
   Multi Lumen - [**2139-8-10**] 03:59 PM
   Prophylaxis:
   DVT: SC heparin, boots
   Stress ulcer: famotidine
   VAP:  elevated 30 degrees
   Comments:
   Communication:  Comments: family meeting yesterday. Will wait for path.
   HCP is pt
s best friend.
   [**Name (NI) 36**] status: DNR, ok for pressors, lines, confirmed.
   Disposition: ICU level of care

2139-08-16 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   --foreign material in biopsy- no malignancy seen
   --occassial atrial tachycardia
   --unable to give furosemide because marginal pressures.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2139-8-15**] 07:31 PM
   Vancomycin - [**2139-8-15**] 08:22 PM
   Clindamycin - [**2139-8-16**] 06:10 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-8-16**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-8-16**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.8
   HR: 84 (76 - 142) bpm
   BP: 102/54(67) {90/39(52) - 116/67(99)} mmHg
   RR: 17 (16 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.6 kg (admission): 78 kg
   Height: 59 Inch
             Total In:
                                                                  2,933 mL
                                                                  1,178 mL
   PO:
             TF:
   IVF:
                                                                  1,068 mL
                                                                    233 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    335 mL
   Urine:
                                                                  1,200 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,733 mL
                                                                    843 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   SpO2: 98%
   ABG: 7.42/51/95.[**Numeric Identifier 143**]/31/6
   Ve: 5.5 L/min
   PaO2 / FiO2: 192
   Physical Examination
   Gen: Sedated in NAD.
   HEENT: PERRL, anicteric sclerae, ETT in place
   HR: Nl S1, S2. No MRG.
   Pulm: Rhonchorous throughout to anterior auscultation. Wheezes heard
   throughout.
   Abd: S/NT/ND. Obese. No bowel sounds
   Ext: Warm extermeities. 1+ pretibial edema. 2+pedal edema
   Neuro: sedated, opens eyes to name, follows command and can squeeze
   hand/wiggle toes.
   Skin: On forearm, erythematous, blanching  macules on the anterior
   surface of the arms. On the back, there are erythematous macules in the
   contact areas on the skin.
   Labs / Radiology
   175 K/uL
   11.3 g/dL
   132 mg/dL
   0.3 mg/dL
   31 mEq/L
   4.3 mEq/L
   15 mg/dL
   106 mEq/L
   142 mEq/L
   34.5 %
   8.1 K/uL
        [image002.jpg]
                             [**2139-8-12**]  12:07 PM
                             [**2139-8-12**]  04:11 PM
                             [**2139-8-13**]  03:14 AM
                             [**2139-8-13**]  04:41 AM
                             [**2139-8-13**]  06:57 AM
                             [**2139-8-14**]  02:48 AM
                             [**2139-8-14**]  06:50 AM
                             [**2139-8-15**]  03:39 AM
                             [**2139-8-15**]  04:07 PM
                             [**2139-8-16**]  05:00 AM
   WBC
   8.0
   9.8
   8.8
   8.1
   Hct
   34.7
   34.7
   35.2
   34.5
   Plt
   178
   152
   167
   175
   Cr
   0.3
   0.4
   0.4
   0.3
   0.3
   TCO2
   26
   29
   30
   32
   34
   Glucose
   80
   103
   107
   120
   132
   Other labs: PT / PTT / INR:14.1/32.6/1.2, ALT / AST:30/48, Alk Phos / T
   Bili:65/0.6, Amylase / Lipase:/15, Lactic Acid:1.1 mmol/L, Albumin:1.9
   g/dL, LDH:228 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Fasting glucose: 104-174
   Cultures:
   Blood culture ([**8-10**]): pending
   CXR: bilateral infiltrates with pleural effusions. R>L. Resolving since
   previous Xray. Left IJ in place. ETT position adequate.
   Assessment and Plan
 BRADYCARDIA
 TRACHEOBRONCHIAL DISEASE, OTHER (TRACHEA / BRONCHUS, INCLUDING
   INJURY)
 PNEUMONIA, ASPIRATION
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assessment and Plan: Ms. [**Known lastname 8360**] is a 54 female with a smoking history,
   hypertension, hyperlipidemia, type 2 diabetes transferred from an OSH
   for bronchoesophageal fistula and cavitary lung abscess/mass.
   # Bronchoesophageal fistula: CT esophogram and barium swallow
   concerning for RLL/RML lung abscess with a RLL bronchus communicating
   with distal esophagus. OSH records say no areas of malignancy, but
   given patient's significant smoking history and
   location/characteristics of mass, there is a concern that the
   underlying process is malignant (esophageal versus lung).  The patient
   has already been evaluated by Thoracic surgery, and her family/HCP have
   declined surgical intervention at this time.  GI scoped the patient and
   found normal mucosa in the first [**2-24**] of the esophagus. About 25 cm
   down, GI noted a stricture and foreign body lodged in the esophagus.
   Biopsies of the esophagus were taken, but prelim reports only showed
   necrotic tissue. Patient has improvement on current therapy, but since
   lung lesion is cavitary and patient has a history of TB, need to get
   AFB stain.
   - Continue cefepime (started [**2139-8-9**]), vanco (started [**2139-8-9**])  and
   clindamycin (started [**2139-8-10**]) for additional anaerobic coverage given
   primary lung abscess.
   - OSH records from bronch showed normal flora. Cultures here have been
   negative for growth
   - send sputum for AFB stain
   - Will obtain a chest CT with IV contrast to assess fistula and
   cavitary lung lesion. Consider IR involvement in obtaining tissue.
   - F/u GI biopsy.
   - Consider diuresing patient with Lasix gtt on [**8-16**] since still
   positive fluid status.
   - Since there is a stricture, unable to pass a tube, so will have to
   give patient TPN. Long term nutrition will likely need a surgical tube
   placed (J tube?). Need to speak with GI if desire to get tube.
   # ARDS: Patient was intubated at OSH, although unclear if this was
   secondary to respiratory failure or for bronchoscopy and upper
   endoscopy.  Currently, P/F ratio <200, with non-cardiogenic pulmonary
   edema so likely ARDS. CXR shows improving fluid status. The current
   goal would be to try and wean the patient off ventilation so that she
   can provide input into her future care.
   - Change ventilation to pressure support and see if patient able to
   tolerate the change.
   - Check ABG after change.
   - Continue midaz gtt and fentaynl gtt
   --sedation holiday
   --continue nebs PRN
   --start thinking about switching to trach if long term ventilation.
   # Hypotension: Clinically, the patient appears euvolemic. Possible
   etiologies of hypotension include sepsis, poor cardiac output,
   hypovolemia, medication related and intubation related. Likely
   diagnoses include sepsis vs. cardiogenic shock. Sepsis possible,
   although lactates have not been high recently. Given patient
   bradycardia, poor cardiac output is also a possibility and there might
   be some compressive effect of the lung mass/abscess (central venous
   oxygen high). Hypovolemia is less likely since she does not respond
   well to boluses, however, her urine is dark (Adequate CVPs, but
   complicated by tricuspid regurg and PEEP). The fentanyl drip can also
   be contributing to her vasodilation, but the benefits of the drip
   outweigh the risks. Patient needed dopamine to maintain MAP, but
   currently able to maintain on own.
   --Continue fluid boluses PRN for a goal of UOP>30 and MAP>65.
   .
   Fluid status: On CXR, less interstitial infiltrates. Continuing to have
   good UOP, but still positive 10 L overall.
   - Will diurese with Lasix gtt on [**8-17**]. Need to use drip since low MAP.
   #Bradycardic with episodes of A. fib with RVR: HR has improved. In the
   past, the patient has been bradycardic in the setting of hypotension
   throughout her ICU stay. On [**8-13**], patient had A. fib with RVR, reported
   previously at OSH. Had one EKG showing ectopic foci with inverted P
   waves. Unsure if sick sinus syndrome?, definite sinus node dysfunction.
   Bradycardia might have been attributing to previous pressor needs.
   --cardiology thinks bradycardia likely due to sepsis. Might be some
   cardiac component, but will defer treatment until patient recovers.
   --Can consider transcutaneous pacing.
   #Rash: contact derm vs. candidal infection vs. drug rash on back. Some
   extension of rash on arms. Drug eruption unlikely.
   --No treatment at this time.
   .
   # Anemia: Hct currently stable.
   --follow Hct
   .
   # Asthma: Continue albuterol/ipratropium MDI prn.
   # DM 2: Continue HISS.
   .
   # HTN: Hold home lisinopril for now.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-8-15**] 06:02 PM 62 mL/hour
   Glycemic Control:  HISS
   Lines:
   Multi Lumen - [**2139-8-10**] 03:59 PM
   Prophylaxis:
   DVT: SC heparin, boots
   Stress ulcer: famotidine
   VAP:  elevated HOB
   Comments:
   Communication:  Comments: Need to speak with HCP about path. Family
   meeting planned for tomorrow. CT results will help with future goals of
   care.
   Code status: DNR, pressors/lines OK
   Disposition: ICU level of care
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points:  54 F with resp failure in context of
   extensive R necrotizing pna vs mass (likely esoph) and tracheoesoph
   fistula.
   AF  MAPs 60-90  HR 70-90 RR 14-23  98% on CMV 350/14/10/50%
   Intubated, sedated, opens eyes to voice, remains rhonchorous
   w/ intermittent wheeze R > L, RR, soft, + BS, + dep edema, stable rash
   on arms and back
   Labs reviewed:  wbc 8, cr 0.3, hct stable
   CXR shows some improvement in b/l interstitial edema and
   effusions, stable R infiltrate/mass
   She remains off pressors, is autodiuresing and her pulm edema is
   improving.  Her underlying problem remains [**Name2 (NI) 9059**] lung
   abscess/pna vs mass (? esoph malignancy) with distal stricture/TE
   fistula.  We remain limited in ability to treat/contain ongoing
   infection/repair the fistula and obtain clear diagnosis. Her prelim
   path from the esoph bx is neg for malignancy further complicating her
   picture, though it is possible that this entire process is
   infectious. Her overall prognosis remains poor given limited ability to
   treat the fistula.  She has a remote hx of TB for which she was treated
   in childhood and suspect underlying lung abnl may have contributed to
   this process.  Will reimage her chest and abd today to assess for
   change/progression/evidence of mets, and discuss consider possible IR
   guided bx. Will trial PS. Her renal fx remains steady and she is has
   adequate u/o. If her BP remains stable off pressors, will attempt
   diuresis (lasix gtt) tomorrow given die load today. Continue broad
   antibx coverage. She remains AF without leukocytosis. Will continue TPN
   for nutrition as unable to pass post-pyloric tube. ICU: IJ, PPI, sq
   hep, ssi
   She is DNR, will continue to work with family to address goals of care.
   Remainder of plan as outlined in resident note.
   Patient is critically ill,
   Total time spent 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2139-8-16**] 01:14 PM ------

2139-08-17 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   --repeated CT torso
   --tolerated pressure support of 18 and PEEP 5 from 1300-0000, on AC
   overnight, switched to pressure support at 0400. RISBI 237.
   --started TPN
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2139-8-16**] 06:15 PM
   Vancomycin - [**2139-8-16**] 08:00 PM
   Cefipime - [**2139-8-16**] 08:00 PM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-8-16**] 11:56 PM
   Heparin Sodium (Prophylaxis) - [**2139-8-16**] 11:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-8-17**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 81 (75 - 140) bpm
   BP: 101/50(62) {88/45(56) - 139/79(93)} mmHg
   RR: 18 (14 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.6 kg (admission): 78 kg
   Height: 59 Inch
             Total In:
                                                                  2,968 mL
                                                                    652 mL
   PO:
             TF:
   IVF:
                                                                  1,537 mL
                                                                    189 mL
   Blood products:
   Total out:
                                                                  1,495 mL
                                                                    340 mL
   Urine:
                                                                  1,495 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,473 mL
                                                                    312 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 283 (283 - 399) mL
   PS : 18 cmH2O
   RR (Set): 14
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 237
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: 7.42/51/127/31/7
   Ve: 6 L/min
   PaO2 / FiO2: 254
   Physical Examination
   Gen: Sedated in NAD.
   HEENT: PERRL, anicteric sclerae, ETT in place
   HR: Nl S1, S2. No MRG.
   Pulm: Rhonchorous throughout to anterior auscultation. Wheezes heard
   throughout.
   Abd: S/NT/ND. Obese. No bowel sounds
   Ext: Warm extermeities. 1+ pretibial edema. 2+pedal edema
   Neuro: sedated, opens eyes to name, follows command and can squeeze
   hand/wiggle toes.
   Skin: On forearm, erythematous, blanching  macules on the anterior
   surface of the arms. On the back, there are erythematous macules in the
   contact areas on the skin.
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   202 K/uL
   11.9 g/dL
   120 mg/dL
   0.4 mg/dL
   31 mEq/L
   4.3 mEq/L
   14 mg/dL
   103 mEq/L
   138 mEq/L
   35.6 %
   8.7 K/uL
        [image002.jpg]
                             [**2139-8-13**]  03:14 AM
                             [**2139-8-13**]  04:41 AM
                             [**2139-8-13**]  06:57 AM
                             [**2139-8-14**]  02:48 AM
                             [**2139-8-14**]  06:50 AM
                             [**2139-8-15**]  03:39 AM
                             [**2139-8-15**]  04:07 PM
                             [**2139-8-16**]  05:00 AM
                             [**2139-8-16**]  06:35 PM
                             [**2139-8-17**]  04:03 AM
   WBC
   8.0
   9.8
   8.8
   8.1
   8.7
   Hct
   34.7
   34.7
   35.2
   34.5
   35.6
   Plt
   178
   152
   167
   175
   202
   Cr
   0.4
   0.4
   0.3
   0.3
   0.4
   TCO2
   29
   30
   32
   34
   34
   Glucose
   103
   107
   120
   132
   120
   Other labs: PT / PTT / INR:14.1/32.6/1.2, ALT / AST:30/48, Alk Phos / T
   Bili:65/0.6, Amylase / Lipase:/15, Lactic Acid:1.1 mmol/L, Albumin:1.9
   g/dL, LDH:228 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   .
   .
   AF pending
   .
   CXR
 unchanged from prior
   .
   CT Torso:
   PFI: Large subcarinal mass with esophagobronchopleural fistula and
   obliteration of the esophagus. No definite evidence of metastatic
   disease,
   although there is an equivocal lesion within the liver, seen only on
   one
   sequence, sequence 6, image 42.
   Assessment and Plan
 .H/O ATRIAL FIBRILLATION (AFIB)
 BRADYCARDIA
 TRACHEOBRONCHIAL DISEASE, OTHER (TRACHEA / BRONCHUS, INCLUDING
   INJURY)
 PNEUMONIA, ASPIRATION
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   .
   Assessment and Plan: Ms. [**Known lastname 8360**] is a 54 female with a smoking history,
   hypertension, hyperlipidemia, type 2 diabetes transferred from an OSH
   for bronchoesophageal fistula and cavitary lung abscess/mass.
   # Bronchoesophageal fistula: CT esophogram and barium swallow
   concerning for RLL/RML lung abscess with a RLL bronchus communicating
   with distal esophagus. OSH records say no areas of malignancy, but
   given patient's significant smoking history and
   location/characteristics of mass, there is a concern that the
   underlying process is malignant (esophageal versus lung).  The patient
   has already been evaluated by Thoracic surgery, and her family/HCP have
   declined surgical intervention at this time.  GI scoped the patient and
   found normal mucosa in the first [**2-24**] of the esophagus. About 25 cm
   down, GI noted a stricture and foreign body lodged in the esophagus.
   Biopsies of the esophagus were taken, but prelim reports only showed
   necrotic tissue. Patient has improvement on current therapy, but since
   lung lesion is cavitary and patient has a history of TB, need to get
   AFB stain.
   - Continue cefepime (started [**2139-8-9**]), vanco (started [**2139-8-9**])  and
   clindamycin (started [**2139-8-10**]) for additional anaerobic coverage given
   primary lung abscess.
   - OSH records from bronch showed normal flora. Cultures here have been
   negative for growth
   - send sputum for AFB stain
   - Will obtain a chest CT with IV contrast to assess fistula and
   cavitary lung lesion. Consider IR involvement in obtaining tissue.
   - F/u GI biopsy.
   - Since there is a stricture, unable to pass a tube, so will have to
   give patient TPN. Long term nutrition will likely need a surgical tube
   placed (J tube?). Need to speak with GI if desire to get tube.
   # ARDS: Patient was intubated at OSH, although unclear if this was
   secondary to respiratory failure or for bronchoscopy and upper
   endoscopy.  Currently, P/F ratio 250s, with non-cardiogenic pulmonary
   edema so likely ARDS. CXR unchanged. The current goal would be to try
   and wean the patient off ventilation so that she can provide input into
   her future care.
   - Change ventilation to pressure support and see if patient able to
   tolerate the change.
   - Check ABG after change.
   - Continue midaz gtt and fentaynl gtt
   - Consider diuresing patient with Lasix since still positive fluid
   status.
   --sedation holiday
   --continue nebs PRN
   --start thinking about switching to trach if long term ventilation.
   # Hypotension: Clinically, the patient appears euvolemic. Possible
   etiologies of hypotension include sepsis, poor cardiac output,
   hypovolemia, medication related and intubation related. Likely
   diagnoses include sepsis vs. cardiogenic shock. Sepsis possible,
   although lactates have not been high recently. Given patient
   bradycardia, poor cardiac output is also a possibility and there might
   be some compressive effect of the lung mass/abscess (central venous
   oxygen high). Hypovolemia is less likely since she does not respond
   well to boluses, however, her urine is dark (Adequate CVPs, but
   complicated by tricuspid regurg and PEEP). The fentanyl drip can also
   be contributing to her vasodilation, but the benefits of the drip
   outweigh the risks. Patient needed dopamine to maintain MAP, but
   currently able to maintain on own.
   --Continue fluid boluses PRN for a goal of UOP>30 and MAP>65.
   .
   # Fluid status: On CXR, less interstitial infiltrates. Continuing to
   have good UOP, but still positive 10 L overall.
   - Will diurese with Lasix gtt on [**8-17**]. Need to use drip since low MAP.
   #Bradycardic with episodes of A. fib with RVR: HR has improved. In the
   past, the patient has been bradycardic in the setting of hypotension
   throughout her ICU stay. On [**8-13**], patient had A. fib with RVR, reported
   previously at OSH. Had one EKG showing ectopic foci with inverted P
   waves. Unsure if sick sinus syndrome?, definite sinus node dysfunction.
   Bradycardia might have been attributing to previous pressor needs.
   --cardiology thinks bradycardia likely due to sepsis. Might be some
   cardiac component, but will defer treatment until patient recovers.
   --Can consider transcutaneous pacing.
   #Rash: contact derm vs. candidal infection vs. drug rash on back. Some
   extension of rash on arms. Drug eruption unlikely.
   --No treatment at this time.
   .
   # Anemia: Hct currently stable.
   --follow Hct
   .
   # Asthma: Continue albuterol/ipratropium MDI prn.
   # DM 2: Continue HISS.
   .
   # HTN: Hold home lisinopril for now.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-8-15**] 06:02 PM 62 mL/hour
   Glycemic Control:  HISS
   Lines:
   Multi Lumen - [**2139-8-10**] 03:59 PM
   Prophylaxis:
   DVT: SC heparin, boots
   Stress ulcer: famotidine
   VAP:  elevated HOB
   Comments:
   Communication:  Comments: Need to speak with HCP about path. Family
   meeting planned for tomorrow. CT results will help with future goals of
   care.
   Code status: DNR, pressors/lines OK
   Disposition: ICU level of care

2139-08-18 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2139-8-17**] 04:38 PM
 URINE CULTURE - At [**2139-8-17**] 04:38 PM
   --lasix gtt, to -1L goal
   --decreased vent to PS 10/5
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2139-8-17**] 08:06 AM
   Vancomycin - [**2139-8-17**] 08:45 AM
   Clindamycin - [**2139-8-18**] 04:54 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2139-8-17**] 11:02 AM
   Furosemide (Lasix) - [**2139-8-17**] 02:41 PM
   Midazolam (Versed) - [**2139-8-17**] 06:15 PM
   Famotidine (Pepcid) - [**2139-8-17**] 11:10 PM
   Heparin Sodium (Prophylaxis) - [**2139-8-17**] 11:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-8-18**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.1
C (100.6
   HR: 96 (82 - 105) bpm
   BP: 106/52(65) {91/40(57) - 159/69(97)} mmHg
   RR: 26 (14 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 78 kg
   Height: 59 Inch
             Total In:
                                                                  2,289 mL
                                                                    762 mL
   PO:
             TF:
   IVF:
                                                                    849 mL
                                                                    324 mL
   Blood products:
   Total out:
                                                                  3,320 mL
                                                                    970 mL
   Urine:
                                                                  3,320 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,031 mL
                                                                   -208 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 336 (291 - 414) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 103
   PIP: 24 cmH2O
   SpO2: 97%
   ABG: 7.42/56/81.[**Numeric Identifier 218**]/34/9
   Ve: 5.9 L/min
   PaO2 / FiO2: 162
   Physical Examination
   Gen: Sedated in NAD.
   HEENT: PERRL, anicteric sclerae, ETT in place
   HR: Nl S1, S2. No MRG.
   Pulm: Rhonchorous throughout to anterior auscultation. Wheezes heard
   throughout.
   Abd: S/NT/ND. Obese. No bowel sounds
   Ext: Warm extermeities. 1+ pretibial edema. 2+pedal edema
   Neuro: sedated, opens eyes to name, follows command and can squeeze
   hand/wiggle toes.
   Skin: On forearm, erythematous, blanching  macules on the anterior
   surface of the arms. On the back, there are erythematous macules in the
   contact areas on the skin. The rash has extended to her anterior things
   and tibia and looks blanching, confluent patches.
   Labs / Radiology
   215 K/uL
   11.8 g/dL
   130 mg/dL
   0.3 mg/dL
   34 mEq/L
   3.7 mEq/L
   11 mg/dL
   98 mEq/L
   137 mEq/L
   35.6 %
   9.1 K/uL
        [image002.jpg]
                             [**2139-8-14**]  02:48 AM
                             [**2139-8-14**]  06:50 AM
                             [**2139-8-15**]  03:39 AM
                             [**2139-8-15**]  04:07 PM
                             [**2139-8-16**]  05:00 AM
                             [**2139-8-16**]  06:35 PM
                             [**2139-8-17**]  04:03 AM
                             [**2139-8-17**]  05:56 PM
                             [**2139-8-18**]  01:21 AM
                             [**2139-8-18**]  03:22 AM
   WBC
   9.8
   8.8
   8.1
   8.7
   9.1
   Hct
   34.7
   35.2
   34.5
   35.6
   35.6
   Plt
   152
   167
   175
   202
   215
   Cr
   0.4
   0.3
   0.3
   0.4
   0.3
   0.3
   TCO2
   32
   34
   34
   38
   Glucose
   107
   120
   132
   120
   129
   130
   Other labs: PT / PTT / INR:14.2/31.8/1.2, ALT / AST:30/48, Alk Phos / T
   Bili:65/0.6, Amylase / Lipase:/15, Differential-Neuts:79.5 %,
   Lymph:10.4 %, Mono:4.2 %, Eos:5.5 %, Lactic Acid:1.1 mmol/L,
   Albumin:1.9 g/dL, LDH:228 IU/L, Ca++:7.4 mg/dL, Mg++:2.6 mg/dL, PO4:3.6
   mg/dL
   Glucose ranges: 142-173
   Pending cultures:
   Urine ([**8-17**]): no growth to date
   Sputum ([**8-17**]): no growth to date
   Blood ([**8-17**]): no growth to date
   Acid fast bacilli ([**8-16**], [**8-17**]): no growth to date
   CXR: bilateral pleural effusions. Pulmonary edema. ETT in place. RIJ in
   place. Patient twisted in film.
   Assessment and Plan
 .H/O ATRIAL FIBRILLATION (AFIB)
 BRADYCARDIA
 TRACHEOBRONCHIAL DISEASE, OTHER (TRACHEA / BRONCHUS, INCLUDING
   INJURY)
 PNEUMONIA, ASPIRATION
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assessment and Plan: Ms. [**Known lastname 8360**] is a 54 female with a smoking history,
   hypertension, hyperlipidemia, type 2 diabetes transferred from an OSH
   for bronchoesophageal fistula and cavitary lung abscess/[**Hospital 9093**] distress: Patient was intubated at OSH, although unclear
   if this was secondary to respiratory failure or for bronchoscopy and
   upper endoscopy.  Originally thought the patient had [**Doctor Last Name 11**]
ARDS because
   P/F ration, b/l infiltrates , and non-cardiogenic PE (nl Echo). Now,
   infiltrates more likely consistent with increased fluid. Pt is fluid
   positive. The current goal would be to try and wean the patient off
   ventilation so that she can provide input into her future care.
   - Patient was initially on volume cycled AC
pressure support [**10-26**] now.
   - Continue midaz gtt and fentaynl gtt
   - Lasix gtt (goal MAP>60) since still positive fluid status.
   --sedation holiday
   --continue nebs PRN
   --start thinking about switching to trach if long term ventilation
   (will depend on goals of care per family mtg)
   .
   # Contraction alkalosis: Patient developed a contraction alkalosis
   likely secondary to Lasix gtt. Lasix gtt needed, so will continue.
   - Volume status goal: -1L/day
   - Aggressively replete potassium.
   - Consider diamox treatment to lower bicarb.
   # Rash: Rash has progressed from back and RUE to b/l U/L extrems and
   has low grade fevers. Macular/blanching, no desquamation. Likely drug
   rash.
   -- will d/c vanc/cefepime given they are not likely needed given no
   growth on cultures to date, can consult derm if worsens
   -- will check for oral lesions.
   --order transaminases
   --follow eosinophil trend
   # Bronchoesophageal fistula: CT esophogram and barium swallow
   concerning for RLL/RML lung abscess with a RLL bronchus communicating
   with distal esophagus. OSH records say no areas of malignancy, but
   given patient's significant smoking history and
   location/characteristics of mass, there is a concern that the
   underlying process is malignant (esophageal versus lung). OSH records
   from bronch showed normal flora. Cultures here have been negative for
   growth. The patient has already been evaluated by Thoracic surgery, and
   her family/HCP have declined surgical intervention at this time.  GI
   scoped the patient and found normal mucosa in the first [**2-24**] of the
   esophagus. About 25 cm down, GI noted a stricture and foreign body
   lodged in the esophagus. Biopsies of the esophagus were taken, but
   prelim reports only showed necrotic tissue. Patient has improvement on
   current therapy, but since lung lesion is cavitary and patient has a
   history of TB, cannot r/o TB.
   - Continue clindamycin q8h (started [**2139-8-17**]) for coverage given primary
   lung abscess
 d/c vanco/cefepime on [**8-17**] given new likely drug rash
   and no culture growth to date
   - f/u cultures, AFB
   - IR c/s for possibility of CT guided bx
   - Since there is a stricture, unable to pass a tube, so will have to
   give patient TPN. Long term nutrition will likely need a surgical tube
   placed (J tube?). Need to speak with GI if desire to get tube.
   .
   # Hypotension: Baseline, the patient is hypertensive. Possible
   etiologies of hypotension include sepsis, poor cardiac output,
   hypovolemia, medication related and intubation related. Likely
   diagnoses include sepsis vs. cardiogenic shock. Sepsis possible,
   although lactates have not been high recently. Given patient
   bradycardia, poor cardiac output is also a possibility and there might
   be some compressive effect of the lung mass/abscess (central venous
   oxygen high). Hypovolemia is less likely since she does not respond
   well to boluses, however, her urine is dark (Adequate CVPs, but
   complicated by tricuspid regurg and PEEP). The fentanyl drip can also
   be contributing to her vasodilation, but the benefits of the drip
   outweigh the risks. Patient needed dopamine to maintain MAP, but
   currently able to maintain on own.
   --Continue fluid boluses PRN for a goal of UOP>30 and MAP>65.
   .
   #Bradycardic with episodes of A. fib with RVR: HR has improved. In the
   past, the patient has been bradycardic in the setting of hypotension
   throughout her ICU stay. On [**8-13**], patient had A. fib with RVR, reported
   previously at OSH. Had one EKG showing ectopic foci with inverted P
   waves. Unsure if sick sinus syndrome?, definite sinus node dysfunction.
   Bradycardia might have been attributing to previous pressor needs.
   --cardiology thinks bradycardia likely due to sepsis. Might be some
   cardiac component, but will defer treatment until patient recovers.
   .
   # Anemia: Hct currently stable.
   --follow Hct
   .
   # Asthma: Continue albuterol/ipratropium MDI prn.
   # DM 2: Continue HISS.
   .
   # HTN: Hold home lisinopril/nodal agents for now.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-8-17**] 07:07 PM 60 mL/hour
   Glycemic Control:  HISS
   Lines:
   Multi Lumen - [**2139-8-10**] 03:59 PM
   Prophylaxis:
   DVT: heparin SC, boots
   Stress ulcer: famotidine
   VAP:  elevated 30 degrees
   Comments:
   Communication:  Comments: Family meeting
   Code status: DNR, ok for pressors, CVL
   Disposition: ICU level of care

2139-08-19 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2139-8-18**] 04:39 PM
 FEVER - 101.2
F - [**2139-8-18**] 08:00 PM
   --spiked to 101, Blood, urine and sputum sent for culture. Increased
   white secretions. CXR showed no new infiltrate. Started on vanco,
   zosyn, cipro to cover for VAP.
   --failed SBT. With turning had desaturations into high 80s.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2139-8-17**] 08:06 AM
   Clindamycin - [**2139-8-18**] 09:33 PM
   Vancomycin - [**2139-8-18**] 11:13 PM
   Piperacillin/Tazobactam (Zosyn) - [**2139-8-19**] 12:20 AM
   Ciprofloxacin - [**2139-8-19**] 12:50 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-8-18**] 11:42 PM
   Famotidine (Pepcid) - [**2139-8-19**] 12:00 AM
   Midazolam (Versed) - [**2139-8-19**] 05:50 AM
   Fentanyl - [**2139-8-19**] 05:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-8-19**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.4
C (99.4
   HR: 78 (75 - 150) bpm
   BP: 101/47(60) {92/40(54) - 138/94(101)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.9 kg (admission): 78 kg
   Height: 59 Inch
             Total In:
                                                                  2,368 mL
                                                                    922 mL
   PO:
             TF:
   IVF:
                                                                    928 mL
                                                                    491 mL
   Blood products:
   Total out:
                                                                  3,520 mL
                                                                    390 mL
   Urine:
                                                                  3,520 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,152 mL
                                                                    532 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 370 (316 - 395) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI: 119
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///35/
   Ve: 5.3 L/min
   Physical Examination
   Gen: Sedated in NAD.
   HEENT: PERRL, anicteric sclerae, ETT in place
   HR: Nl S1, S2. No MRG.
   Pulm: Rhonchorous throughout to anterior auscultation. Wheezes heard
   throughout.
   Abd: S/NT/ND. Obese. No bowel sounds
   Ext: Warm extermeities. 1+ pretibial edema. 2+pedal edema
   Neuro: sedated, opens eyes to name, follows command and can squeeze
   hand/wiggle toes.
   Skin: On forearm, erythematous, blanching  macules on the anterior
   surface of the arms. On the back, there are erythematous macules in the
   contact areas on the skin. The rash has extended to her anterior things
   and tibia and looks blanching, confluent patches.
   Labs / Radiology
   227 K/uL
   11.3 g/dL
   106 mg/dL
   0.3 mg/dL
   35 mEq/L
   3.5 mEq/L
   12 mg/dL
   95 mEq/L
   136 mEq/L
   33.5 %
   8.6 K/uL
        [image002.jpg]
                             [**2139-8-15**]  03:39 AM
                             [**2139-8-15**]  04:07 PM
                             [**2139-8-16**]  05:00 AM
                             [**2139-8-16**]  06:35 PM
                             [**2139-8-17**]  04:03 AM
                             [**2139-8-17**]  05:56 PM
                             [**2139-8-18**]  01:21 AM
                             [**2139-8-18**]  03:22 AM
                             [**2139-8-18**]  01:33 PM
                             [**2139-8-19**]  03:45 AM
   WBC
   8.8
   8.1
   8.7
   9.1
   8.6
   Hct
   35.2
   34.5
   35.6
   35.6
   33.5
   Plt
   167
   175
   202
   215
   227
   Cr
   0.3
   0.3
   0.4
   0.3
   0.3
   0.4
   0.3
   TCO2
   34
   34
   38
   Glucose
   120
   132
   120
   129
   130
   136
   106
   Other labs: PT / PTT / INR:14.4/33.5/1.2, ALT / AST:17/30, Alk Phos / T
   Bili:55/0.8, Amylase / Lipase:/15, Differential-Neuts:76.7 %,
   Lymph:11.5 %, Mono:6.0 %, Eos:5.4 %, Lactic Acid:1.1 mmol/L,
   Albumin:1.8 g/dL, LDH:166 IU/L, Ca++:7.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.1
   mg/dL
   Cultures:
   Assessment and Plan
 .H/O ATRIAL FIBRILLATION (AFIB)
 BRADYCARDIA
 TRACHEOBRONCHIAL DISEASE, OTHER (TRACHEA / BRONCHUS, INCLUDING
   INJURY)
 PNEUMONIA, ASPIRATION
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assessment and Plan: Ms. [**Known lastname 8360**] is a 54 female with a smoking history,
   hypertension, hyperlipidemia, type 2 diabetes transferred from an OSH
   for bronchoesophageal fistula and cavitary lung abscess/[**Hospital 9093**] distress: Patient was intubated at OSH, although unclear
   if this was secondary to respiratory failure or for bronchoscopy and
   upper endoscopy.  Originally thought the patient had [**Doctor Last Name 11**]
ARDS because
   P/F ration, b/l infiltrates , and non-cardiogenic PE (nl Echo). Now,
   infiltrates more likely consistent with increased fluid. Pt is fluid
   positive. The current goal would be to try and wean the patient off
   ventilation so that she can provide input into her future care.
   - Patient was initially on volume cycled AC
pressure support [**10-26**] now.
   - Continue midaz gtt and fentaynl gtt
   - Lasix gtt (goal MAP>60) since still positive fluid status.
   --sedation holiday
   --continue nebs PRN
   --start thinking about switching to trach if long term ventilation
   (will depend on goals of care per family mtg)
   .
   # Contraction alkalosis: Patient developed a contraction alkalosis
   likely secondary to Lasix gtt. Lasix gtt needed, so will continue.
   - Volume status goal: -1L/day
   - Aggressively replete potassium.
   - Consider diamox treatment to lower bicarb.
   # Rash: Rash has progressed from back and RUE to b/l U/L extrems and
   has low grade fevers. Macular/blanching, no desquamation. Likely drug
   rash.
   -- will d/c vanc/cefepime given they are not likely needed given no
   growth on cultures to date, can consult derm if worsens
   -- will check for oral lesions.
   --order transaminases
   --follow eosinophil trend
   # Bronchoesophageal fistula: CT esophogram and barium swallow
   concerning for RLL/RML lung abscess with a RLL bronchus communicating
   with distal esophagus. OSH records say no areas of malignancy, but
   given patient's significant smoking history and
   location/characteristics of mass, there is a concern that the
   underlying process is malignant (esophageal versus lung). OSH records
   from bronch showed normal flora. Cultures here have been negative for
   growth. The patient has already been evaluated by Thoracic surgery, and
   her family/HCP have declined surgical intervention at this time.  GI
   scoped the patient and found normal mucosa in the first [**2-24**] of the
   esophagus. About 25 cm down, GI noted a stricture and foreign body
   lodged in the esophagus. Biopsies of the esophagus were taken, but
   prelim reports only showed necrotic tissue. Patient has improvement on
   current therapy, but since lung lesion is cavitary and patient has a
   history of TB, cannot r/o TB.
   - Continue clindamycin q8h (started [**2139-8-17**]) for coverage given primary
   lung abscess
 d/c vanco/cefepime on [**8-17**] given new likely drug rash
   and no culture growth to date
   - f/u cultures, AFB
   - IR c/s for possibility of CT guided bx
   - Since there is a stricture, unable to pass a tube, so will have to
   give patient TPN. Long term nutrition will likely need a surgical tube
   placed (J tube?). Need to speak with GI if desire to get tube.
   .
   # Hypotension: Baseline, the patient is hypertensive. Possible
   etiologies of hypotension include sepsis, poor cardiac output,
   hypovolemia, medication related and intubation related. Likely
   diagnoses include sepsis vs. cardiogenic shock. Sepsis possible,
   although lactates have not been high recently. Given patient
   bradycardia, poor cardiac output is also a possibility and there might
   be some compressive effect of the lung mass/abscess (central venous
   oxygen high). Hypovolemia is less likely since she does not respond
   well to boluses, however, her urine is dark (Adequate CVPs, but
   complicated by tricuspid regurg and PEEP). The fentanyl drip can also
   be contributing to her vasodilation, but the benefits of the drip
   outweigh the risks. Patient needed dopamine to maintain MAP, but
   currently able to maintain on own.
   --Continue fluid boluses PRN for a goal of UOP>30 and MAP>65.
   .
   #Bradycardic with episodes of A. fib with RVR: HR has improved. In the
   past, the patient has been bradycardic in the setting of hypotension
   throughout her ICU stay. On [**8-13**], patient had A. fib with RVR, reported
   previously at OSH. Had one EKG showing ectopic foci with inverted P
   waves. Unsure if sick sinus syndrome?, definite sinus node dysfunction.
   Bradycardia might have been attributing to previous pressor needs.
   --cardiology thinks bradycardia likely due to sepsis. Might be some
   cardiac component, but will defer treatment until patient recovers.
   .
   # Anemia: Hct currently stable.
   --follow Hct
   .
   # Asthma: Continue albuterol/ipratropium MDI prn.
   # DM 2: Continue HISS.
   .
   # HTN: Hold home lisinopril/nodal agents for now.
   ICU Care
   Nutrition:  Replete electrolytes
   TPN w/ Lipids - [**2139-8-18**] 07:29 PM 60 mL/hour
   Glycemic Control:  Blood sugar well controlled, Insulin in TPN
   Lines:
   Multi Lumen - [**2139-8-10**] 03:59 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: famotidine
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held. Oncology will meet with them today.
   Code status: DNR, ok for pressors/lines, confirmed
   Disposition: ICU level of care.

2139-08-20 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.6
F - [**2139-8-19**] 08:00 PM
   --made CMO by proxy, withdrew meds, labs, studies
   --extubate when family comes today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2139-8-17**] 08:06 AM
   Clindamycin - [**2139-8-18**] 09:33 PM
   Vancomycin - [**2139-8-19**] 08:43 AM
   Ciprofloxacin - [**2139-8-19**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2139-8-19**] 08:20 PM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2.5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-8-19**] 08:43 AM
   Famotidine (Pepcid) - [**2139-8-19**] 12:21 PM
   Midazolam (Versed) - [**2139-8-19**] 11:34 PM
   Fentanyl - [**2139-8-19**] 11:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-8-20**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.7
C (98
   HR: 73 (73 - 105) bpm
   BP: 99/47(59) {96/47(59) - 155/88(93)} mmHg
   RR: 19 (18 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.9 kg (admission): 78 kg
   Height: 59 Inch
             Total In:
                                                                  2,946 mL
                                                                    555 mL
   PO:
             TF:
   IVF:
                                                                  1,434 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                  1,210 mL
                                                                    345 mL
   Urine:
                                                                  1,210 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,736 mL
                                                                    210 mL
   Respiratory support
   Could not tolerate CPAP.
   Switched to AC volume cycled: FiO2: 50, PEEP: 5, f: 14, Tv: 350 and
   PIP: 29
   Physical Examination
   Gen: Sedated in NAD.
   HEENT: PERRL, anicteric sclerae, ETT in place
   HR: Nl S1, S2. No MRG.
   Pulm: Rhonchorous throughout to anterior auscultation. Wheezes heard
   throughout.
   Abd: S/NT/ND. Obese. No bowel sounds
   Ext: Warm extermeities. 1+ pretibial edema. 2+pedal edema
   Neuro: sedated, opens eyes to name, follows command and can squeeze
   hand/wiggle toes.
   Skin: On forearm, erythematous, blanching  macules on the anterior
   surface of the arms. On the back, there are erythematous macules in the
   contact areas on the skin. The rash has extended to her anterior things
   and tibia and looks blanching, confluent patches.
   Labs / Radiology
   227 K/uL
   11.3 g/dL
   106 mg/dL
   0.3 mg/dL
   35 mEq/L
   3.5 mEq/L
   12 mg/dL
   95 mEq/L
   136 mEq/L
   33.5 %
   8.6 K/uL
        [image002.jpg]
                             [**2139-8-15**]  04:07 PM
                             [**2139-8-16**]  05:00 AM
                             [**2139-8-16**]  06:35 PM
                             [**2139-8-17**]  04:03 AM
                             [**2139-8-17**]  05:56 PM
                             [**2139-8-18**]  01:21 AM
                             [**2139-8-18**]  03:22 AM
                             [**2139-8-18**]  01:33 PM
                             [**2139-8-19**]  03:45 AM
                             [**2139-8-19**]  12:55 PM
   WBC
   8.1
   8.7
   9.1
   8.6
   Hct
   34.5
   35.6
   35.6
   33.5
   Plt
   175
   202
   215
   227
   Cr
   0.3
   0.4
   0.3
   0.3
   0.4
   0.3
   TCO2
   34
   34
   38
   41
   Glucose
   132
   120
   129
   130
   136
   106
   Other labs: PT / PTT / INR:14.4/33.5/1.2, ALT / AST:17/30, Alk Phos / T
   Bili:55/0.8, Amylase / Lipase:/15, Differential-Neuts:76.7 %,
   Lymph:11.5 %, Mono:6.0 %, Eos:5.4 %, Lactic Acid:1.9 mmol/L,
   Albumin:1.8 g/dL, LDH:166 IU/L, Ca++:7.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
 .H/O ATRIAL FIBRILLATION (AFIB)
 BRADYCARDIA
 TRACHEOBRONCHIAL DISEASE, OTHER (TRACHEA / BRONCHUS, INCLUDING
   INJURY)
 PNEUMONIA, ASPIRATION
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   54 yo female with a bronchoesophageal fistula found to have a poorly
   differentiated adenocarcionoma, most likely of pulmonary origin.
   Patient would not be a good surgical [**Last Name (LF) 9129**], [**First Name3 (LF) **] will become CMO
   today. Plan to extubate once family arrives.
   Medications are as follows:
   --fentanyl drip
   --midazolam drip
   --Morphine PRN
   --Acetaminophen PRN.
   ICU Care
   Nutrition:
   D/C TPN
   Glycemic Control:
   Lines:
   Multi Lumen - [**2139-8-10**] 03:59 PM
   Prophylaxis:
   DVT: none
   Stress ulcer: none
   VAP:  elevated head of bed
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: Will become CMO today
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan.
   54 F with resp failure in context of extensive R necrotizing pna /
   esoph mass and tracheoesoph fistula. Her path results confirm poorly
   diff carcinoma from lung primary.
   101.2-->99  BP 101/50  HR 70-150  RR 18-25   96%  ACV  350/14/5/50,
   Intubated, sedated, rhonchorous w/ wheeze R > L, RR, soft, + BS, + dep
   edema, stable rash
   Pt with advanced lung malignancy with esophageal involvement and TEF.
   Meds, tpn and fluids have been d/c'd.    Family is tansitoning to CMO.
   Plan to extubate to comfort when family arrives. Remainder of plan as
   outlined in resident note.
   Patient is critically ill
   Total time spent 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2139-8-20**] 02:26 PM ------